2150-02-12 07:57:00 Physician Resident Progress Note
Chief Complaint: Reason for MICU transfer: Post-operative hypotension,
   remains intubated
   .
   Chief Complaint: VRE bacteremia
   24 Hour Events:
 ARTERIAL LINE - START [**2150-2-11**] 10:00 PM
   -White cell transfusion without significant adverse events (received
   hydrocortisone 50 x 1)
   -Pt with some hypotension overnight during transfusion resolved with
   awakening and LR boluses
   -Pressures stabled out by 3-4am
   Patient unable to provide history: Sedated
   Allergies:
   Morphine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2150-2-12**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-2-12**] 07:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-2-12**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 96 (77 - 113) bpm
   BP: 97/60(72) {82/53(63) - 154/94(119)} mmHg
   RR: 18 (13 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 105.5 kg (admission): 105.5 kg
           Total In:
                                                                  2,804 mL
                                                                  2,135 mL
   PO:
           TF:
   IVF:
                                                                  2,339 mL
                                                                  1,726 mL
   Blood products:
                                                                    375 mL
                                                                    259 mL
   Total out:
                                                                     30 mL
                                                                      5 mL
   Urine:
                                                                     30 mL
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,774 mL
                                                                  2,130 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 579 (530 - 579) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 30
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.41/25/145/15/-6
   Ve: 11 L/min
   PaO2 / FiO2: 363
   Physical Examination
   General: Intubated, opens eyes to verbal stimulus, can squeeze fingers
   and barely wiggle toes on command
   HEENT: Sclera anicteric, dried blood in OP and nares. MMM
   Neck: Supple
   Lungs: Clear to auscultation anteriorly, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: 1+ edema B/L warm, well perfused, RUE dsg C/D/I. Cap refill <3 sec
   bl.
   Labs / Radiology
   94 K/uL
   9.1 g/dL
   118 mg/dL
   2.8 mg/dL
   15 mEq/L
   3.6 mEq/L
   26 mg/dL
   101 mEq/L
   135 mEq/L
   26.0 %
   0.5 K/uL
        [image002.jpg]
                             [**2150-2-11**]  05:37 PM
                             [**2150-2-11**]  07:07 PM
                             [**2150-2-11**]  10:54 PM
                             [**2150-2-11**]  11:10 PM
                             [**2150-2-12**]  12:12 AM
                             [**2150-2-12**]  02:20 AM
                             [**2150-2-12**]  05:29 AM
   WBC
   0.2
   0.1
   0.2
   0.5
   Hct
   22.8
   22.0
   26.0
   27.0
   26.0
   Plt
   89
   77
   84
   94
   Cr
   2.7
   2.7
   2.8
   TCO2
   18
   16
   Glucose
   119
   124
   126
   118
   Other labs: PT / PTT / INR:14.6/34.2/1.3, ALT / AST:19/60, Alk Phos / T
   Bili:126/1.2, Differential-Neuts:76.0 %, Band:0.0 %, Lymph:8.0 %,
   Mono:16.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L, LDH:578 IU/L, Ca++:7.9
   mg/dL, Mg++:1.7 mg/dL, PO4:4.1 mg/dL
   Imaging: CXR AP [**2150-2-11**] wetread:
   Low lung volumes limit ETT tip 3.5 cm from carina Bihilar opacification
   likley pulmonary edema but could be mulifocal pna d/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 2391**] 7:45p
   GWlms
   Microbiology: Blood cultures of [**3-12**], [**2-5**], [**2-6**], [**2-7**], [**2-8**], [**2-9**] have
   all been positive with VRE or enterococcus yet to be confirmed VRE.
   Tissue from OR phlebitis cultures still pending.
   Assessment and Plan
 .H/O HYPOTENSION (NOT SHOCK)
 .H/O RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O PANCYTOPENIA
 BACTEREMIA
   Assessment and Plan
   61 year old female with biphenotypic leukemia admitted with persistent
   neutropenia and high grade VRE bacteremia attributed to line infection
   and septic thrombophlebitis now POD #0 s/p excision right basilic [**Hospital 13196**]
   transferred from OR intubated with transient hypotension.
   .
   # Hypotension: Resolved at present. Most concerning for evolving sepsis
   given known bacteremia and immunocompromised status. Cardiogenic,
   hypovolemic, or obstructive etiology less likely.
   - No need for bolus at present give pt is normotensive
   - If needed, would bolus with 1L D5 3amps bicarb as resuscitation fluid
   given renal failure metabolic acidosis and maintain MAP>65
   - changed sedation from propofol to Dexmedetomidine to decrease
   hypotension, but weaning sedation nonetheless
   - maintain PIVs, would like to avoid central access if possible given
   need for line holiday given high grade VRE bacteremia
   - broad abx (dapto and zosyn) as below
   - if pressors/central line needed, will discuss placing HD catheter
   with VIP port with renal since likely to need HD
   - If HD needed will need HD catheter placed, will d/w reanl
   # VRE bacteremia: Patient with high grade VRE bacteremia but recent
   blood cx [**2-9**] NGTD and now has had removal of one source of infection
   (basilic vein) as well as PICC. Could also consider endocarditis as
   possibility but TTE negative
   - continue daptomycin per ID recommendations; continue zosyn for broad
   coverage and fever and neutropenia
   - appreciate ID recommendations
   - consider adding linezolid if continues to have positive blood cx or
   increased MIC to dapto
   - consider TEE while intubated but unlikely to currently change
   management, will make sure to discuss with BMT and ID
   # Anuric ARF: Patient with rapidly progressive renal failure last 48
   hours, likely related to ATN from hypotension as well as gentamycin (3
   doses [**Date range (1) 120**]). UOP 275cc last 24 hours, previously 850cc prior 24
   hours. nephrology following and medicatiosn redosed for creatinine
   clearance, may need CVVH next 24-72 hours if remains anuric/oliguric.
   - avoid nephrotoxic agents
   - appreciate renal recommendations
   - If hypotensive again, recommend maintaining renal perfusion and
   correct metaboli acidosis with boluses D5 with bicarb
   - renally dose meds, will discuss holding acyclovir with BMT
   # Intubation: Kept intubated overnight for white cell infusion. Patient
   remained post-operatively intubated for unclear reasons. Per
   anesthesia, had tachypnea pre-op but CXR relatively clear and without
   infiltrate other than possible pulmonary edema but difficult to
   interpret in setting of low lung volumes. Oxygen saturations 100% on
   60%.
   - decrease FiO2 to 40% and check ABG
   - change to PSV ventilation
   - short acting sedation to enable probable extubation in am
   - Will wait to make sure no procedures need to be completed before
   extubation, will d/w consulting teams
   #) Biphenotypic Leukemia/pancytopenia: WBC improved from 0.2 to 0.5
   after infusion. Patient is s/p hyper CVAD x 2, MEC and clofarabine and
   ara-C, now with persistent neutropenia and thrombocytopenia and
   decreased ability to clear infection and bacteremia.
   - Monitor CBC w/diff after granulocyte infusion
   - maintain an active type and screen
   - transfuse for platelets<10,000 or any signs of bleeding and HCT<24
   - Touch base with renal and BMT if we should continue ppx with
   voriconazole and acyclovir
   - continue neupogen
   #) H/O positive PPD: continue prior regimen of moxifloxacin 400mg daily
   as per prior ID recs
   # FEN: NPO, replete lytes, bolus 1L D5W with bicarb
   # PPx: pneumoboots and thrombocytopenia, PPI
   Access: peripherals
   Code:  Full confirmed with patient and husband
   Communication: [**Name2 (NI) **]
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control: Blood sugar well controlled
   Lines:
   20 Gauge - [**2150-2-11**] 04:55 PM
   22 Gauge - [**2150-2-11**] 06:36 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status:
   Disposition:

2150-02-13 07:54:00 Physician Resident Progress Note
Chief Complaint: respiratory
   24 Hour Events:
   - no new surgical recs.
   - onc ok to discontinue acyclovir.  want line holiday.  held off on
   doing ir guided line yesterday.
   - received WBC transfusion.
   - will keep intubated overnight.
   - put in for nutrition consult. tube feeds started.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Morphine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2150-2-12**] 11:57 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2150-2-12**] 02:14 PM
   Pantoprazole (Protonix) - [**2150-2-12**] 07:47 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Flowsheet Data as of  [**2150-2-13**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.4
C (97.6
   HR: 113 (100 - 132) bpm
   BP: 147/82(106) {93/52(66) - 172/92(120)} mmHg
   RR: 27 (18 - 27) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 105.5 kg (admission): 105.5 kg
           Total In:
                                                                  2,655 mL
                                                                    499 mL
   PO:
           TF:
                                                                     20 mL
                                                                     40 mL
   IVF:
                                                                  2,106 mL
                                                                     78 mL
   Blood products:
                                                                    259 mL
                                                                    291 mL
   Total out:
                                                                    115 mL
                                                                     25 mL
   Urine:
                                                                    115 mL
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,540 mL
                                                                    474 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 605 (605 - 800) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 29
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.41/22/182/12/-7
   Ve: 10.9 L/min
   PaO2 / FiO2: 455
   Physical Examination
   Head, Ears, Nose, Throat: OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   73 K/uL
   9.5 g/dL
   122 mg/dL
   3.6 mg/dL
   12 mEq/L
   3.6 mEq/L
   33 mg/dL
   100 mEq/L
   136 mEq/L
   27.1 %
   0.8 K/uL
        [image002.jpg]
                             [**2150-2-11**]  05:37 PM
                             [**2150-2-11**]  07:07 PM
                             [**2150-2-11**]  10:54 PM
                             [**2150-2-11**]  11:10 PM
                             [**2150-2-12**]  12:12 AM
                             [**2150-2-12**]  02:20 AM
                             [**2150-2-12**]  05:29 AM
                             [**2150-2-12**]  04:35 PM
                             [**2150-2-12**]  05:04 PM
                             [**2150-2-13**]  05:42 AM
   WBC
   0.2
   0.1
   0.2
   0.5
   0.7
   0.8
   Hct
   22.8
   22.0
   26.0
   27.0
   26.0
   29.2
   27.1
   Plt
   89
   77
   84
   94
   81
   73
   Cr
   2.7
   2.7
   2.8
   3.3
   3.6
   TCO2
   18
   16
   14
   Glucose
   119
   124
   126
   118
   106
   122
   Other labs: PT / PTT / INR:14.9/32.6/1.3, ALT / AST:17/49, Alk Phos / T
   Bili:176/0.9, Differential-Neuts:88.0 %, Band:2.0 %, Lymph:4.0 %,
   Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L, LDH:539 IU/L, Ca++:7.2
   mg/dL, Mg++:1.7 mg/dL, PO4:5.3 mg/dL
   Microbiology: GPCs in blood culture from [**2-11**]
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O HYPOTENSION (NOT SHOCK)
 .H/O RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O PANCYTOPENIA
   61 year old female with biphenotypic leukemia admitted with persistent
   neutropenia and high grade VRE bacteremia attributed to line infection
   and septic thrombophlebitis now POD #0 s/p excision right basilic [**Hospital 13196**]
   transferred from OR intubated with transient hypotension.
   .
   # Hypotension: Resolved at present. Most concerning for evolving sepsis
   given known bacteremia and immunocompromised status. Cardiogenic,
   hypovolemic, or obstructive etiology less likely.
   - No need for bolus at present give pt is normotensive
   - If needed, would bolus with 1L D5 3amps bicarb as resuscitation fluid
   given renal failure metabolic acidosis and maintain MAP>65
   - changed sedation from propofol to Dexmedetomidine to decrease
   hypotension, but weaning sedation nonetheless
   - maintain PIVs, would like to avoid central access if possible given
   need for line holiday given high grade VRE bacteremia
   - broad abx (dapto and zosyn) as below
   - if pressors/central line needed, will discuss placing HD catheter
   with VIP port with renal since likely to need HD
   - If HD needed will need HD catheter placed, will d/w reanl
   # VRE bacteremia: Patient with high grade VRE bacteremia but recent
   blood cx [**2-9**] NGTD and now has had removal of one source of infection
   (basilic vein) as well as PICC. Could also consider endocarditis as
   possibility but TTE negative
   - continue daptomycin per ID recommendations; continue zosyn for broad
   coverage and fever and neutropenia
   - appreciate ID recommendations
   - consider adding linezolid if continues to have positive blood cx or
   increased MIC to dapto
   - consider TEE while intubated but unlikely to currently change
   management, will make sure to discuss with BMT and ID
   # Anuric ARF: Patient with rapidly progressive renal failure last 48
   hours, likely related to ATN from hypotension as well as gentamycin (3
   doses [**Date range (1) 120**]). UOP 275cc last 24 hours, previously 850cc prior 24
   hours. nephrology following and medicatiosn redosed for creatinine
   clearance, may need CVVH next 24-72 hours if remains anuric/oliguric.
   - avoid nephrotoxic agents
   - appreciate renal recommendations
   - If hypotensive again, recommend maintaining renal perfusion and
   correct metaboli acidosis with boluses D5 with bicarb
   - renally dose meds, will discuss holding acyclovir with BMT
   # Intubation: Kept intubated overnight for white cell infusion. Patient
   remained post-operatively intubated for unclear reasons. Per
   anesthesia, had tachypnea pre-op but CXR relatively clear and without
   infiltrate other than possible pulmonary edema but difficult to
   interpret in setting of low lung volumes. Oxygen saturations 100% on
   60%.
   - decrease FiO2 to 40% and check ABG
   - change to PSV ventilation
   - short acting sedation to enable probable extubation in am
   - Will wait to make sure no procedures need to be completed before
   extubation, will d/w consulting teams
   #) Biphenotypic Leukemia/pancytopenia: WBC improved from 0.2 to 0.5
   after infusion. Patient is s/p hyper CVAD x 2, MEC and clofarabine and
   ara-C, now with persistent neutropenia and thrombocytopenia and
   decreased ability to clear infection and bacteremia.
   - Monitor CBC w/diff after granulocyte infusion
   - maintain an active type and screen
   - transfuse for platelets<10,000 or any signs of bleeding and HCT<24
   - Touch base with renal and BMT if we should continue ppx with
   voriconazole and acyclovir
   - continue neupogen
   #) H/O positive PPD: continue prior regimen of moxifloxacin 400mg daily
   as per prior ID recs
   # FEN: NPO, replete lytes, bolus 1L D5W with bicarb
   # PPx: pneumoboots and thrombocytopenia, PPI
   Access: peripherals
   Code:  Full confirmed with patient and husband
   Communication: [**Name2 (NI) **]
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2150-2-11**] 06:36 PM
   Arterial Line - [**2150-2-11**] 10:00 PM
   Prophylaxis:
   DVT: (low platelets)
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2150-02-14 08:22:00 Physician Resident Progress Note
Chief Complaint: Reason for MICU transfer: Post-operative hypotension,
   remains intubated
   .
   Chief Complaint: VRE bacteremia
   24 Hour Events:
 BLOOD CULTURED - At [**2150-2-13**] 08:28 AM
   aline
 DIALYSIS CATHETER - START [**2150-2-13**] 12:40 PM
   w/ VIP port
 ARTERIAL LINE - STOP [**2150-2-14**] 03:04 AM
   [**2-13**]
   - got temp line placed, and hemodialysis
   - ordered for MRI, because still sleeping and kept intubated
   - per id, if cx cont to be +, add linezolid 600mg iv q12hr
   History obtained from Patient
   Allergies:
   History obtained from PatientMorphine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Daptomycin - [**2150-2-13**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2150-2-14**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-2-13**] 09:00 PM
   Fentanyl - [**2150-2-14**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-2-14**] 08:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 38
C (100.4
   Tcurrent: 36.1
C (96.9
   HR: 117 (91 - 130) bpm
   BP: 156/86(103) {88/46(53) - 186/99(115)} mmHg
   RR: 23 (19 - 39) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 105.5 kg (admission): 105.5 kg
             Total In:
                                                                  1,134 mL
                                                                    187 mL
   PO:
             TF:
                                                                     90 mL
                                                                      4 mL
   IVF:
                                                                    452 mL
                                                                    183 mL
   Blood products:
                                                                    291 mL
   Total out:
                                                                  1,135 mL
                                                                     15 mL
   Urine:
                                                                    135 mL
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     -1 mL
                                                                    172 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 460 (460 - 460) mL
   Vt (Spontaneous): 395 (395 - 518) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 52
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 59
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 99%
   ABG: 7.43/21/204/16/-7
   Ve: 19.5 L/min
   PaO2 / FiO2: 510
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   36 K/uL
   9.9 g/dL
   80 mg/dL
   3.3 mg/dL
   16 mEq/L
   3.1 mEq/L
   32 mg/dL
   98 mEq/L
   138 mEq/L
   27.9 %
   0.5 K/uL
        [image002.jpg]
                             [**2150-2-11**]  10:54 PM
                             [**2150-2-11**]  11:10 PM
                             [**2150-2-12**]  12:12 AM
                             [**2150-2-12**]  02:20 AM
                             [**2150-2-12**]  05:29 AM
                             [**2150-2-12**]  04:35 PM
                             [**2150-2-12**]  05:04 PM
                             [**2150-2-13**]  05:42 AM
                             [**2150-2-14**]  05:01 AM
                             [**2150-2-14**]  07:41 AM
   WBC
   0.2
   0.5
   0.7
   0.8
   0.5
   Hct
   26.0
   27.0
   26.0
   29.2
   27.1
   27.9
   Plt
   84
   94
   81
   73
   36
   Cr
   2.8
   3.3
   3.6
   3.3
   TCO2
   18
   16
   14
   14
   Glucose
   126
   118
   106
   122
   80
   Other labs: PT / PTT / INR:16.0/37.2/1.4, ALT / AST:17/52, Alk Phos / T
   Bili:270/1.2, Differential-Neuts:88.0 %, Band:2.0 %, Lymph:4.0 %,
   Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L, LDH:540 IU/L, Ca++:7.2
   mg/dL, Mg++:1.7 mg/dL, PO4:4.3 mg/dL
   Microbiology: [**Date range (1) 13292**] daily cx positive for enterococcus
   Blood cx from [**2150-2-13**] and [**2150-2-14**] NGTD
   ECG: Sinus tachycardia, reduced voltage of precordial leads
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O HYPOTENSION (NOT SHOCK)
 .H/O RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O PANCYTOPENIA
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2150-2-11**] 06:36 PM
   Dialysis Catheter - [**2150-2-13**] 12:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   Assessment and Plan
   61 year old female with biphenotypic leukemia admitted with persistent
   neutropenia and high grade VRE bacteremia attributed to line infection
   and septic thrombophlebitis now POD #2 s/p excision right basilic [**Hospital 13196**]
   transferred from OR intubated with transient hypotension.
   # SEPSIS, high grade VRE bactermemia [**2-3**] PICC
   Blood cultures still turning positive. Needs line for HD.
   - IR guided IJ with VIP port after discussing with BMT
   - continue broad coverage antibiotics
   - continue surveillance cultures
   - f/u blood cultures, path from surgery
   - f/u ID recs
   # ARF, anuric
   Likely ATN from hypotension vs gent
   - HD this pm pending line placement
   - avoid nephrotoxic agents
   - appreciate renal recommendations
   - If hypotensive again, recommend maintaining renal perfusion and
   correct metaboli acidosis with boluses D5 with bicarb
   - holding acyclovir
   # Intubation: Kept intubated for line placement and out of concern for
   mental status although ventilating well.
   - likely will extubate after line placement
   # Acid-Base
   Has normal pH of 7.4 so likely has two primary disorders. Gap metabolic
   acidosis from renal failure. Respiratory alkalosis: maybe sepsis,
   partially compensatory for acidosis.
   - monitor
   # Mental status
   Concerning as not on any sedation and BUN not that elevated.
   - If not improved after HD, will w/u further, consider MRi
   # Hypotension:
   Improved with lifting of sedation
   - monitor
   #) Biphenotypic Leukemia/pancytopenia: Got another WBC transfusion.
   Patient is s/p hyper CVAD x 2, MEC and clofarabine and ara-C, now with
   persistent neutropenia and thrombocytopenia and decreased ability to
   clear infection and bacteremia.
   - Monitor CBC w/diff after granulocyte infusion
   - maintain an active type and screen
   - transfuse for platelets<10,000 or any signs of bleeding and HCT<24
   - continue neupogen
   #) H/O positive PPD: continue prior regimen of moxifloxacin 400mg daily
   as per prior ID recs
   ICU Care
   Nutrition:
   Holding tube feeds for line placement/extubation
   Will place NGT prior to extubation
   Glycemic Control:
   Lines:
   22 Gauge - [**2150-2-11**] 06:36 PM
   Arterial Line - [**2150-2-11**] 10:00 PM
   Prophylaxis:
   DVT: (low platelets) boots
   Stress ulcer:  PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 61F AML/ALL dx [**11-10**], neg BMBx p/w VRE
   bacteremia in the setting of septic PICC-related thrombophlebitis.
   Remains anuric, granulocyte infusion overnight, awaiting IR HD line.
   GPC on BCX from [**2-11**].
   Exam notable for Tm 99.1 BP 100/60 HR 100 RR 27 with sat 99 on PSV 5/5,
   UOP 20cc since midnight. Ill appearing. Coarse BS B. RRR s1s2 2/6SM.
   Soft +BS. RUE dressing c/d/i. Soft +BS. 2+ edema. Labs notable for WBC
   0.8K, HCT 27, K+ 3.6, Cr 3.6. CXR with low volumes.
   Agree with plan to manage post-op respiratory failure with SBT now and
   potential extubation as her mental status resolves and procedures are
   completed. Continue broad abx coverage for VRE sepsis / febrile
   neutropenia. ARF is progressive, place IR-guided VIP HD line followed
   by HD today. For ALL/AML - NAD on BMBx but pancytopenic s/p granulocyte
   infusion, continue GCSF, RBC transfusion, platelets for procedures.
   Will check smear for TTP/HUS and check MRI if she remains
   encephalopathic post HD. Continue moxifloxacin for +PPD. Remainder of
   plan as outlined above.
   Patient is critically ill
   Total time: 35 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Last Name (NamePattern1) 775**], MD
   on:[**2150-2-13**] 04:58 PM ------

2150-02-14 08:32:00 Physician Attending Progress Note
Chief Complaint: bacteremia, ARF, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 61 year old female with biphenotypic leukemia admitted with
   persistent neutropenia and high grade VRE bacteremia attributed to line
   infection and septic thrombophlebitis, s/p excision right basilic [**Hospital 13196**]
   transferred from OR intubated with transient hypotension.
   24 Hour Events:
   HD line placed yesterday, started on HD
   Remains somnolent, MRI done this AM
   Tachypneic to the 50s this AM, bucking on the ETT, also tachycardic and
   hypertensive, ABG done: 743/21/204
   ECG: ST at 199, no ischemic changes
   Low-grade temps O/N
   History obtained from Family / [**Hospital 75**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Morphine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Daptomycin - [**2150-2-13**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2150-2-14**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-2-13**] 09:00 PM
   Fentanyl - [**2150-2-14**] 06:00 AM
   Other medications:
   Daptomycin
   Filgastrim 480 Q24
   Moxifloxacin 400 daily
   Clotrimazole troches
 on hold
   Voriconazole 200 PO Q12
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain
   Flowsheet Data as of  [**2150-2-14**] 08:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 38
C (100.4
   Tcurrent: 36.1
C (96.9
   HR: 117 (91 - 130) bpm
   BP: 156/86(103) {88/46(53) - 186/99(115)} mmHg
   RR: 23 (19 - 39) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 105.5 kg (admission): 105.5 kg
             Total In:
                                                                  1,134 mL
                                                                    189 mL
   PO:
             TF:
                                                                     90 mL
                                                                      4 mL
   IVF:
                                                                    452 mL
                                                                    185 mL
   Blood products:
                                                                    291 mL
   Total out:
                                                                  1,135 mL
                                                                     15 mL
   Urine:
                                                                    135 mL
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     -1 mL
                                                                    174 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 460 (460 - 460) mL
   Vt (Spontaneous): 395 (395 - 518) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 52
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 59
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 99%
   ABG: 7.43/21/204/16/-7
   Ve: 19.5 L/min
   PaO2 / FiO2: 510
   Physical Examination
   Gen intubated, off sedation
   Chest
   CV
   Abd
   Extr
   Labs / Radiology
   9.9 g/dL
   36 K/uL
   80 mg/dL
   3.3 mg/dL
   16 mEq/L
   3.1 mEq/L
   32 mg/dL
   98 mEq/L
   138 mEq/L
   27.9 %
   0.5 K/uL
        [image002.jpg]
                             [**2150-2-11**]  10:54 PM
                             [**2150-2-11**]  11:10 PM
                             [**2150-2-12**]  12:12 AM
                             [**2150-2-12**]  02:20 AM
                             [**2150-2-12**]  05:29 AM
                             [**2150-2-12**]  04:35 PM
                             [**2150-2-12**]  05:04 PM
                             [**2150-2-13**]  05:42 AM
                             [**2150-2-14**]  05:01 AM
                             [**2150-2-14**]  07:41 AM
   WBC
   0.2
   0.5
   0.7
   0.8
   0.5
   Hct
   26.0
   27.0
   26.0
   29.2
   27.1
   27.9
   Plt
   84
   94
   81
   73
   36
   Cr
   2.8
   3.3
   3.6
   3.3
   TCO2
   18
   16
   14
   14
   Glucose
   126
   118
   106
   122
   80
   Other labs: PT / PTT / INR:16.0/37.2/1.4, ALT / AST:17/52, Alk Phos / T
   Bili:270/1.2, Differential-Neuts:88.0 %, Band:2.0 %, Lymph:4.0 %,
   Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L, LDH:540 IU/L, Ca++:7.2
   mg/dL, Mg++:1.7 mg/dL, PO4:4.3 mg/dL
   Micro:
   Last positive blood cxs: [**2-11**], subsequent ones all NGTD
   Assessment and Plan
   61 year old female with biphenotypic leukemia admitted with persistent
   neutropenia and high grade VRE bacteremia attributed to line infection
   and septic thrombophlebitis, now s/p excision right basilic vein on
   [**2-11**], transferred from OR intubated with transient hypotension, now
   with RF and AMS
   1. Sepsis: high grade VRE bactermemia [**2-3**] PICC. Last + blood culture on
   [**2-11**] pre-OR.
   - continue daptomycin + zosyn
   - f/up surveillance cultures
   - f/u ID recs; will change to linezolid if more recent Cxs turn
   positive
   2. Altered mental status:  tachypneic this am with ?jerking movements
   of jaw vs. biting on the tube.  Head CT on [**2-9**] with no acute changes.
   MRI done this am.
   - F/up MRI read
   - Consider Neuro consult
   2. ARF, anuric: likely ATN from hypotension vs gent
   - HD this pm pending line placement
   - avoid nephrotoxic agents
   - appreciate renal recommendations
   - If hypotensive again, recommend maintaining renal perfusion and
   correct metaboli acidosis with boluses D5 with bicarb
   - holding acyclovir
   # Intubation: Kept intubated for line placement and out of concern for
   mental status although ventilating well.
   - likely will extubate after line placement
   # Acid-Base
   Has normal pH of 7.4 so likely has two primary disorders. Gap metabolic
   acidosis from renal failure. Respiratory alkalosis: maybe sepsis,
   partially compensatory for acidosis.
   - monitor
   # Mental status
   Concerning as not on any sedation and BUN not that elevated.
   - If not improved after HD, will w/u further, consider MRi
   # Hypotension:
   Improved with lifting of sedation
   - monitor
   #) Biphenotypic Leukemia/pancytopenia: Got another WBC transfusion.
   Patient is s/p hyper CVAD x 2, MEC and clofarabine and ara-C, now with
   persistent neutropenia and thrombocytopenia and decreased ability to
   clear infection and bacteremia.
   - Monitor CBC w/diff after granulocyte infusion
   - maintain an active type and screen
   - transfuse for platelets<10,000 or any signs of bleeding and HCT<24
   - continue neupogen
   #) H/O positive PPD: continue prior regimen of moxifloxacin 400mg daily
   as per prior ID recs
   ICU Care
   Nutrition: restart TFs given persistent AMS
   Glycemic Control:
   Lines:
   22 Gauge - [**2150-2-11**] 06:36 PM
   Dialysis Catheter - [**2150-2-13**] 12:40 PM
   Prophylaxis:
   DVT: boots, no heparin given thrombocytopenia
   Stress ulcer:  PPI
   VAP: chlorhexidine
   Communication:  will update husband
   [**Name (NI) 36**] status: Full code
   Disposition: ICU
   Total time spent:  35 min CCT

2150-02-15 07:35:00 Physician Resident Progress Note
Chief Complaint: Reason for MICU transfer: Post-operative hypotension,
   remains intubated
   .
   Chief Complaint: VRE bacteremia
   24 Hour Events:
 BLOOD CULTURED - At [**2150-2-15**] 02:57 AM
   HD line
 SPUTUM CULTURE - At [**2150-2-15**] 04:15 AM
   [**2-14**]:
   - Pt having episodes of tachypnea to the 50s, which would resolve
   reliably by increasing PSV to 15 or 20
   - Advanced ETT by 2cm
   -Neuro recommended EEG and LP, LP deferred as would not change
   management
   - MRI final read negative
   - EEG negative
   - C diff negative
   - Concern for TTP/HUS, BMT to check a smear
   - HD last night, 2L negative
   - Platelets dropped to 13, was transfused 1 unit of platelets
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Morphine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Daptomycin - [**2150-2-13**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2150-2-14**] 11:34 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-2-14**] 07:43 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-2-15**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.1
C (98.7
   HR: 115 (103 - 127) bpm
   BP: 125/66(82) {108/58(70) - 199/135(147)} mmHg
   RR: 26 (14 - 45) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 101.8 kg (admission): 105.5 kg
           Total In:
                                                                    974 mL
                                                                    325 mL
   PO:
           TF:
                                                                    304 mL
   IVF:
                                                                    640 mL
                                                                     74 mL
   Blood products:
   201 mL
   Total out:
                                                                  2,207 mL
                                                                     15 mL
   Urine:
                                                                    132 mL
                                                                     15 mL
   NG:
                                                                     75 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,233 mL
                                                                    310 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 455 (455 - 702) mL
   PS : 12 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   SpO2: 99%
   ABG: 7.49/22/227/25/-3
   Ve: 12.7 L/min
   PaO2 / FiO2: 568
   Physical Examination
   General: Intubated, opens eyes to verbal stimulus once only, does not
   follow commands
   HEENT: Sclera anicteric, dried blood in OP and nares. MMM
   Neck: Supple
   Lungs: Clear to auscultation anteriorly, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: 1+ edema B/L warm, well perfused, RUE dsg C/D/I. Cap refill <3 sec
   bl.
   Labs / Radiology
   13 K/uL
   9.4 g/dL
   133 mg/dL
   2.7 mg/dL
   25 mEq/L
   3.9 mEq/L
   25 mg/dL
   98 mEq/L
   141 mEq/L
   26.8 %
   0.3 K/uL
        [image002.jpg]
                             [**2150-2-12**]  02:20 AM
                             [**2150-2-12**]  05:29 AM
                             [**2150-2-12**]  04:35 PM
                             [**2150-2-12**]  05:04 PM
                             [**2150-2-13**]  05:42 AM
                             [**2150-2-14**]  05:01 AM
                             [**2150-2-14**]  07:41 AM
                             [**2150-2-14**]  03:15 PM
                             [**2150-2-14**]  03:50 PM
                             [**2150-2-15**]  02:33 AM
   WBC
   0.5
   0.7
   0.8
   0.5
   0.4
   0.3
   Hct
   26.0
   29.2
   27.1
   27.9
   26.6
   26.8
   Plt
   94
   81
   73
   36
   27
   13
   Cr
   2.8
   3.3
   3.6
   3.3
   2.7
   TropT
   0.03
   0.04
   TCO2
   16
   14
   14
   17
   Glucose
   126
   118
   106
   122
   80
   133
   Other labs: PT / PTT / INR:16.0/37.2/1.4, CK / CKMB /
   Troponin-T:310/2/0.04, ALT / AST:17/42, Alk Phos / T Bili:340/1.1,
   Differential-Neuts:83.0 %, Band:0.0 %, Lymph:11.0 %, Mono:6.0 %,
   Eos:0.0 %, Lactic Acid:1.3 mmol/L, LDH:479 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.6 mg/dL, PO4:2.6 mg/dL
   Imaging: CXR AP [**2150-2-14**]:
   FINDINGS: The ET tube tip is 5.2 cm above the carina. The right IJ line
   tip
   is at the cavoatrial junction. The lungs are clear without infiltrate
   or
   effusion.
   Microbiology: Blood cx from [**2-12**], [**2-13**], [**2-14**], and [**2-15**] with NGTD
   Urine cx [**2150-2-14**]: NGTD
   C diff stool [**2150-2-14**]: negative
   Tissue cx [**2150-2-11**]: NGTD
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O HYPOTENSION (NOT SHOCK)
 .H/O RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O PANCYTOPENIA
   61 year old female with biphenotypic leukemia admitted with persistent
   neutropenia and high grade VRE bacteremia attributed to line infection
   and septic thrombophlebitis now POD #2 s/p excision right basilic [**Hospital 13196**]
   transferred from OR intubated with transient hypotension.
   # Mental status: Concerning as not on any sedation and BUN not that
   elevated and no improvement after HD x 2. Ddx includes toxic metabolic
   encephalopathy although seems out of proportion. Other possibilities
   could include paraneoplastic diffuse myelopathy or neuromyopathy such
   as GBS or LE syndrome. Does not bode well for patient
s prognosis.
   Appreciate neuro recs greatly.
   - D/w neuro re possibility of 24 hour EEG as previous 20min bedside not
   during episodes of mouth movements
   - F/u final EEG read
   - D/w neuro on how LP would change management as high risk with her low
   plt and white count
   -D/w neuro re EMG
   - Continue to monitor mental status and tx underlying infection.
   # SEPSIS, high grade VRE bactermemia [**2-3**] PICC. Fortunately, no blood
   cultures have turned positive since the OR suggesting a possible
   improvement by the white cell transfusion and/or removing this
   significant nidus of infection. If becomes bacteremic again will
   consider second white cell infusion and/or linezolid as further
   last-ditch efforts.
   - continue broad coverage antibiotics with daptomycin, zosyn, and
   voriconazole
   - continue surveillance cultures
   - f/u blood cultures, vein path from surgery
   - f/u ID recs
   # ARF, anuric: S/p HD x 2, repeating today per renal. Likely [**2-3**] ATN
   from hypotension vs gent
   - Cont HD tomorrow
   - avoid nephrotoxic agents
   - appreciate renal recommendations
   - holding acyclovir
   # Respiratory failure: Kept intubated for line placement and out of
   concern for mental status and failing of SBT. Increased secretions
   concerning for VAP
   - Urgent CXR
 neg on my read, f/u final read
   - Monitor mental status and will not extubate until mental status
   clears such that pt can protect her airway
   - Monitor for increased secretions, fevers
   - VAP PPX
   # Acid-Base
   Has alkalotic pH 7.49 so likely has two primary disorders. Gap
   metabolic acidosis from renal failure. Respiratory alkalosis: maybe
   sepsis or CNS disease, partially compensatory for acidosis.
   - monitor
   # Hypotension:
   Improved with lifting of sedation
   - monitor
   #) Biphenotypic Leukemia/pancytopenia: Received 6 packs platelets
   overnight. Patient is s/p hyper CVAD x 2, MEC and clofarabine and
   ara-C, now with persistent neutropenia and thrombocytopenia and
   decreased ability to clear infection and bacteremia.
   - Monitor CBC w/diff after granulocyte infusion
   - maintain an active type and screen
   - transfuse for platelets<10,000 or any signs of bleeding and HCT<24
   - continue neupogen
   #) H/O positive PPD: continue prior regimen of moxifloxacin 400mg daily
   as per prior ID recs
   ICU Care
   Nutrition:
   Holding tube feeds for line placement/extubation
   Will place NGT prior to extubation
   Glycemic Control:
   Lines:
   20 Gauge
 [**2150-2-14**]
   HD temporary dialysis line [**2150-2-13**]
   Prophylaxis:
   DVT: (low platelets) boots
   Stress ulcer:  PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2150-02-15 08:01:00 Physician Attending Progress Note
Chief Complaint:  bacteremia, ARF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   MRI done, no focal abnormality
   [** 7960**] with no SZ
   Neuro team saw, agreed with MR [**First Name (Titles) **] [**Last Name (Titles) 7960**], and recommended an LP, which
   was deferred given that pt is already on abx and neutropenic and
   thrombocytopenic, so risks high and unclear that would change
   management
   Tachypneic o/n, PS increased and RR decreased
   HD again yesterday, 2L off
   Plts 13 from 27, got 6 pack of platelets
   History obtained from Family / [**Hospital 75**] Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   Morphine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Daptomycin - [**2150-2-13**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2150-2-14**] 11:34 PM
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-2-14**] 07:43 PM
   Other medications:
   Daptomycin
   Neupogen 480 Q24
   Moxiflox 400 daily
   Pantoprazole
   Voriconazole 200 Q12
   Zosyn 2.25 IV Q8
   Chlorhexidine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain
   Flowsheet Data as of  [**2150-2-15**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.1
C (98.7
   HR: 115 (103 - 127) bpm
   BP: 125/66(82) {108/58(70) - 199/135(147)} mmHg
   RR: 26 (14 - 45) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 101.8 kg (admission): 105.5 kg
           Total In:
                                                                    974 mL
                                                                    331 mL
   PO:
           TF:
                                                                    304 mL
   IVF:
                                                                    640 mL
                                                                     80 mL
   Blood products:
   201 mL
   Total out:
                                                                  2,207 mL
                                                                     15 mL
   Urine:
                                                                    132 mL
                                                                     15 mL
   NG:
                                                                     75 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,233 mL
                                                                    316 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 538 (455 - 702) mL
   PS : 12 cmH2O
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 18 cmH2O
   SpO2: 99%
   ABG: 7.49/22/227/25/-3
   Ve: 14.1 L/min
   PaO2 / FiO2: 568
   Physical Examination
   Gen: intubated, off sedation, intermittenlty opens eyes partially to
   command
   Chest: CTAB
   CV: RRR, no m/r/g
   Abd: soft + BS
   Extr: warm, boots on, no edema
   Labs / Radiology
   9.4 g/dL
   40 K/uL
   133 mg/dL
   2.7 mg/dL
   25 mEq/L
   3.9 mEq/L
   25 mg/dL
   98 mEq/L
   141 mEq/L
   26.8 %
   0.3 K/uL
        [image002.jpg]
                             [**2150-2-12**]  05:29 AM
                             [**2150-2-12**]  04:35 PM
                             [**2150-2-12**]  05:04 PM
                             [**2150-2-13**]  05:42 AM
                             [**2150-2-14**]  05:01 AM
                             [**2150-2-14**]  07:41 AM
                             [**2150-2-14**]  03:15 PM
                             [**2150-2-14**]  03:50 PM
                             [**2150-2-15**]  02:33 AM
                             [**2150-2-15**]  06:33 AM
   WBC
   0.5
   0.7
   0.8
   0.5
   0.4
   0.3
   Hct
   26.0
   29.2
   27.1
   27.9
   26.6
   26.8
   Plt
   94
   81
   73
   36
   27
   13
   40
   Cr
   2.8
   3.3
   3.6
   3.3
   2.7
   TropT
   0.03
   0.04
   TCO2
   14
   14
   17
   Glucose
   118
   106
   122
   80
   133
   Other labs: PT / PTT / INR:16.0/37.2/1.4, CK / CKMB /
   Troponin-T:310/2/0.04, ALT / AST:17/42, Alk Phos / T Bili:340/1.1,
   Differential-Neuts:83.0 %, Band:0.0 %, Lymph:11.0 %, Mono:6.0 %,
   Eos:0.0 %, Lactic Acid:1.3 mmol/L, LDH:479 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.6 mg/dL, PO4:2.6 mg/dL
   Micro: sputum and urine cxs pending, c. diff neg, blood cxs: no new
   growth since [**2-11**]
   Imaging:
   MRI [**2-14**]: IMPRESSION: No gadolinium-enhanced images are obtained to
   assess for meningitis or meningeal inflammation. However, no brain
   edema is seen to suggest obviously metastatic lesions or abscess.
   Decreased signal is seen within the bony structures which could be
   secondary to patient's leukemia. No mass effect or hydrocephalus.
   Assessment and Plan
   61 year old female with biphenotypic leukemia admitted with persistent
   neutropenia and high grade VRE bacteremia attributed to line infection
   and septic thrombophlebitis, now s/p excision right basilic vein on
   [**2-11**], transferred from OR intubated with transient hypotension, now
   with RF on HD and AMS
   1. Altered mental status:  tachypneic this am with ?jerking movements
   of jaw vs. biting on the tube.  Head CT on [**2-9**] with no acute changes.
   MRI done yesterday; no gado given, but no focal abnormalities seen;
   decreased signal seen within the bony structures which could be
   secondary to patient's leukemia.  Portable [**Month/Day (4) 7960**] (20min) neg for SZ
   activity on prelim report.  Recurrent episode of biting on the tube
   ealier today, ?SZ.
   - Appreciate Neuro input; holding off on LP since pt is already on abx
   and neutropenic and thrombocytopenic, so risks high and unclear that
   would change management
   - Will d/w neuro team re: 24 hour [**Month/Day (4) 7960**], ?EMG
   2. Sepsis: high grade VRE bactermemia [**2-3**] PICC. s/p excision of R
   basilica vein on [**2-11**]. Last + blood culture on [**2-11**] pre-OR.
   - continue daptomycin + zosyn
   - f/up surveillance cultures
   - f/u ID recs; will change to linezolid if more recent Cxs turn
   positive
   3. ARF, anuric: likely ATN from hypotension vs gent. HD line placed
   yesterday, got HD yest PM.
   - s/p HD yesterday, next run tomorrow
   - avoid nephrotoxic agents
   - appreciate renal input
   - holding acyclovir
   4. Resp failure: intubated for OR, now with persistently poor MS/not
   waking up. CXR with clear lungs.  ABGs with high PaO2, persistent
   respiratory alkalosis.  Failed SBT today [**2-3**] tachypnea and low VTs,
   which is new from prior; ?myopathy.  Now also with increasing ETT
   secretions.
   - d/w neuro re: ?EMG
   - s/up sputum culture
   - check NIF
   5. Acid-Base: normal pH, gap metabolic acidosis from renal failure.
   Respiratory alkalosis: maybe sepsis, partially compensatory for
   acidosis.
   - monitor
   6. Biphenotypic Leukemia/pancytopenia: patient is s/p hyper CVAD x 2,
   MEC and clofarabine and ara-C, now with persistent neutropenia and
   thrombocytopenia and decreased ability to clear infection and
   bacteremia.
   - check ANC daily
   - transfuse for platelets<10,000 or any signs of bleeding and HCT<24
   - f/up with Oncology team re: WBC transfusions
   - continue neupogen
   - review smear re: ?shistocytes
   7. H/O positive PPD: continue prior regimen of moxifloxacin 400mg daily
   as per prior ID recs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-2-13**] 12:40 PM
   22 Gauge - [**2150-2-14**] 09:32 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP:  peridex
   Communication: with husband
   [**Name (NI) 36**] status: Full code
   Disposition : ICU
   Patient is critically ill.
   Total time spent: 35 min CCT

2150-02-16 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2150-2-16**] 04:28 AM
   HD line
 BLOOD CULTURED - At [**2150-2-16**] 04:55 AM
   HD line
   - no new recs from onc: they feel mental status unlikely to be related
   to cancer or granulocyte infusion
   - ordered 24 hr EEG. no other recs
   - asked renal to think about possibility of drugs not cleared by HD
   - failed SBT
   Allergies:
   Morphine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Daptomycin - [**2150-2-15**] 07:39 PM
   Piperacillin/Tazobactam (Zosyn) - [**2150-2-16**] 12:13 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-2-15**] 07:38 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-2-16**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.8
C (98.2
   HR: 113 (86 - 117) bpm
   BP: 135/76(86) {79/46(53) - 183/92(106)} mmHg
   RR: 24 (14 - 34) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 101.8 kg (admission): 105.5 kg
             Total In:
                                                                  1,206 mL
                                                                    461 mL
   PO:
             TF:
                                                                    360 mL
                                                                    344 mL
   IVF:
                                                                    400 mL
                                                                    118 mL
   Blood products:
                                                                    201 mL
   Total out:
                                                                     77 mL
                                                                     17 mL
   Urine:
                                                                     77 mL
                                                                     17 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,129 mL
                                                                    444 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 426 (426 - 540) mL
   PS : 12 cmH2O
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 66
   PIP: 18 cmH2O
   SpO2: 98%
   ABG: ///22/
   Ve: 14.8 L/min
   Physical Examination
   Patient does not open eyes spontaneously, not responding to noxious
   stimuli, pupils sluggishly reactive, +edema in upper/lower extremities
   Labs / Radiology
   12 K/uL
   8.8 g/dL
   197 mg/dL
   3.6 mg/dL
   22 mEq/L
   3.9 mEq/L
   40 mg/dL
   94 mEq/L
   136 mEq/L
   25.2 %
   0.3 K/uL
        [image002.jpg]
                             [**2150-2-12**]  05:04 PM
                             [**2150-2-13**]  05:42 AM
                             [**2150-2-14**]  05:01 AM
                             [**2150-2-14**]  07:41 AM
                             [**2150-2-14**]  03:15 PM
                             [**2150-2-14**]  03:50 PM
                             [**2150-2-15**]  02:33 AM
                             [**2150-2-15**]  06:33 AM
                             [**2150-2-15**]  05:20 PM
                             [**2150-2-16**]  04:13 AM
   WBC
   0.8
   0.5
   0.4
   0.3
   0.4
   0.3
   Hct
   27.1
   27.9
   26.6
   26.8
   26.2
   25.2
   Plt
   73
   36
   27
   13
   40
   23
   12
   Cr
   3.6
   3.3
   2.7
   3.3
   3.6
   TropT
   0.03
   0.04
   TCO2
   14
   14
   17
   Glucose
   122
   80
   133
   137
   197
   Other labs: PT / PTT / INR:15.6/32.6/1.4, CK / CKMB /
   Troponin-T:310/2/0.04, ALT / AST:10/36, Alk Phos / T Bili:329/1.1,
   Differential-Neuts:87.0 %, Band:0.0 %, Lymph:13.0 %, Mono:0.0 %,
   Eos:0.0 %, Lactic Acid:1.3 mmol/L, LDH:405 IU/L, Ca++:7.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Imaging: MRI Head:
   No gadolinium-enhanced images are obtained to assess for meningitis or
   meningeal inflammation. However, no brain edema is seen to suggest
   obviously metastatic lesions or abscess. Decreased signal is seen
   within the bony structures which could be secondary to patient's
   leukemia. No mass effect or hydrocephalus
   CXR:
   The lung volumes are slightly low. with some basilar atelectasis. No
   definite infiltrate. No CHF or effusion. Small (2 mm) nodular density
   overlying the right lung base (right fifth anterior rib) likely
   represents confluence of osseous and vascular shadows.
   Microbiology: Blood cx ([**2-11**])
                                ENTEROCOCCUS FAECIUM
                                |
   AMPICILLIN------------  =>32 R
   DAPTOMYCIN------------       S
   LINEZOLID-------------     2 S
   PENICILLIN G----------  =>64 R
   VANCOMYCIN------------  =>32 R
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O HYPOTENSION (NOT SHOCK)
 .H/O RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O PANCYTOPENIA
   61 year old female with biphenotypic leukemia admitted with persistent
   neutropenia and high grade VRE bacteremia attributed to line infection
   and septic thrombophlebitis, now s/p excision right basilic vein on
   [**2-11**], transferred from OR intubated with transient hypotension, now
   with RF on HD and AMS.
   #. AMS:  Ddx broad and includes carcinomatous spread, infxs (though no
   growth on recent blood cx), metabolic (patient s/p HD sessions),
   seizure activity, neuromyopathy.  MRI of head non-revealing for
   bleed/edema/mets/meningeal inflammation but w/ decreased signaling in
   bony structures possibly [**2-3**] leukemia.  Patient remains intubated
   failing SBTs.  NIFs low possibly neuromyopathy.  Patient has been
   evaluated by neurology.
   - F/u EEG read; plan for 24 hr EEG
   - Continue HD
   - Continue treating high grade bacteremia as outlined below
   - Possible LP; evaluate cytology/infectious source
   - D/w neuro re: EMG
   # SEPSIS, high grade VRE bactermemia [**2-3**] PICC. No blood cultures have
   turned positive since the OR suggesting a possible improvement by the
   white cell transfusion and/or removing this significant nidus of
   infection. If becomes bacteremic again will consider second white cell
   infusion and/or linezolid.
   - Continue broad coverage antibiotics with daptomycin, zosyn, and
   voriconazole
   - Continue surveillance cultures
   - F/u ID recs
   # ARF, anuric: S/p HD. Likely [**2-3**] ATN from hypotension vs gent
   - avoid nephrotoxic agents
   - appreciate renal recommendations
   - holding acyclovir
   # Respiratory failure: Intubated for line placement and since has
   failed of SBT given AMS. Increased secretions concerning for VAP
   - Daily RISBI, SBTs
   - Daily NIFs
   - Monitor mental status and will not extubate until mental status
   clears such that pt can protect her airway
   - Monitor for increased secretions, fevers
   - VAP PPX
   # Acid-Base
   Has alkalotic pH 7.49 so likely has two primary disorders. Gap
   metabolic acidosis from renal failure. Respiratory alkalosis: maybe
   sepsis or CNS disease, partially compensatory for acidosis.
   - monitor
   # Biphenotypic Leukemia/pancytopenia: s/p Received 6 packs platelets.
   Patient is s/p hyper CVAD x 2, MEC and clofarabine and ara-C, now with
   persistent neutropenia and thrombocytopenia and decreased ability to
   clear infection and bacteremia.  No schistocytes seen on smear, though
   platelets low again
   - Daily ANC after granulocyte infusion
   - maintain an active type and screen
   - transfuse for platelets<10,000 or any signs of bleeding and HCT<24
   - continue neupogen
   #) H/O positive PPD: continue prior regimen of moxifloxacin 400mg daily
   as per prior ID recs
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2150-2-16**] 03:02 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-2-13**] 12:40 PM
   22 Gauge - [**2150-2-14**] 09:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2150-02-16 07:05:00 Physician Resident Progress Note
Chief Complaint: Reason for MICU transfer: Post-operative hypotension,
   remains intubated
   .
   Chief Complaint: VRE bacteremia
   .
   24 Hour Events:
 BLOOD CULTURED - At [**2150-2-16**] 04:28 AM
   HD line
 BLOOD CULTURED - At [**2150-2-16**] 04:55 AM
   HD line
   [**2150-2-15**]
   - no new recs from onc: they feel mental status unlikely to be related
   to cancer or granulocyte infusion
   - ordered 24 hr EEG. no other recs from neuro, did not feel strongly
   about LP
   - asked renal to think about possibility of drugs not cleared by HD
   - failed SBT
   Patient unable to provide history: Sedated, Unresponsive
   Allergies:
   Morphine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Daptomycin - [**2150-2-15**] 07:39 PM
   Piperacillin/Tazobactam (Zosyn) - [**2150-2-16**] 12:13 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-2-15**] 07:38 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-2-16**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.8
C (98.2
   HR: 113 (86 - 117) bpm
   BP: 135/76(86) {79/46(53) - 183/92(106)} mmHg
   RR: 24 (14 - 34) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 101.8 kg (admission): 105.5 kg
             Total In:
                                                                  1,206 mL
                                                                    474 mL
   PO:
             TF:
                                                                    360 mL
                                                                    355 mL
   IVF:
                                                                    400 mL
                                                                    120 mL
   Blood products:
                                                                    201 mL
   Total out:
                                                                     77 mL
                                                                     17 mL
   Urine:
                                                                     77 mL
                                                                     17 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,129 mL
                                                                    457 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 426 (426 - 540) mL
   PS : 12 cmH2O
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 66
   PIP: 18 cmH2O
   SpO2: 98%
   ABG: ///22/
   Ve: 14.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12 K/uL
   8.8 g/dL
   197 mg/dL
   3.6 mg/dL
   22 mEq/L
   3.9 mEq/L
   40 mg/dL
   94 mEq/L
   136 mEq/L
   25.2 %
   0.3 K/uL
        [image002.jpg]
                             [**2150-2-12**]  05:04 PM
                             [**2150-2-13**]  05:42 AM
                             [**2150-2-14**]  05:01 AM
                             [**2150-2-14**]  07:41 AM
                             [**2150-2-14**]  03:15 PM
                             [**2150-2-14**]  03:50 PM
                             [**2150-2-15**]  02:33 AM
                             [**2150-2-15**]  06:33 AM
                             [**2150-2-15**]  05:20 PM
                             [**2150-2-16**]  04:13 AM
   WBC
   0.8
   0.5
   0.4
   0.3
   0.4
   0.3
   Hct
   27.1
   27.9
   26.6
   26.8
   26.2
   25.2
   Plt
   73
   36
   27
   13
   40
   23
   12
   Cr
   3.6
   3.3
   2.7
   3.3
   3.6
   TropT
   0.03
   0.04
   TCO2
   14
   14
   17
   Glucose
   122
   80
   133
   137
   197
   Other labs: PT / PTT / INR:15.6/32.6/1.4, CK / CKMB /
   Troponin-T:310/2/0.04, ALT / AST:10/36, Alk Phos / T Bili:329/1.1,
   Differential-Neuts:87.0 %, Band:0.0 %, Lymph:13.0 %, Mono:0.0 %,
   Eos:0.0 %, Lactic Acid:1.3 mmol/L, LDH:405 IU/L, Ca++:7.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Imaging: CXP AP [**2150-2-15**]:
   An ET tube is present, tip in satisfactory position approximately 4.7
   cm above the carina. A right IJ central line is present, tip at SVC/RA
   junction. No pneumothorax is detected.
   The lung volumes are slightly low. with some basilar atelectasis. No
   definite
   infiltrate. No CHF or effusion. Small (2-mm) nodular density overlying
   the
   right lung base (right fifth anterior rib) likely represents confluence
   of
   osseous and vascular shadows.
   Microbiology: [**2150-2-15**]: Sputum nondiagnositic test cancelled.
   [**2150-2-16**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2150-2-16**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2150-2-15**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2150-2-14**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-NEGATIVE
   [**2150-2-14**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2150-2-13**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2150-2-12**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2150-2-11**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O HYPOTENSION (NOT SHOCK)
 .H/O RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O PANCYTOPENIA
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2150-2-16**] 03:02 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-2-13**] 12:40 PM
   22 Gauge - [**2150-2-14**] 09:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2150-02-16 08:35:00 Physician Attending Progress Note
Chief Complaint:  respiratory failure, ARF, AMS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Failed SBT with RRs to 50s and NIF of - 16 x 2
   Repeat NIFs -25-30
   Remains on PS
   No new + blood cultures since [**2-11**]
   HD this am
   No schistos on smear per the Heme team
   History obtained from Family / Friend
   [**Name (NI) **] unable to provide history: Encephalopathy
   Allergies:
   Morphine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Daptomycin - [**2150-2-15**] 07:39 PM
   Piperacillin/Tazobactam (Zosyn) - [**2150-2-16**] 08:22 AM
   Voriconazole - [**2150-2-16**] 08:23 AM
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-2-16**] 08:22 AM
   Other medications:
   Moxiflox 400
   GCSF 480 daily
   Dapto Q48
   Pantoprazole 40 IV
   Voriconazole 200 Q12
   Zosyn
   Chlorhexidine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain
   Flowsheet Data as of  [**2150-2-16**] 08:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.8
C (98.2
   HR: 113 (86 - 115) bpm
   BP: 135/76(86) {79/46(53) - 183/92(106)} mmHg
   RR: 24 (14 - 34) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 101.8 kg (admission): 105.5 kg
             Total In:
                                                                  1,206 mL
                                                                    727 mL
   PO:
             TF:
                                                                    360 mL
                                                                    441 mL
   IVF:
                                                                    400 mL
                                                                    196 mL
   Blood products:
                                                                    201 mL
   Total out:
                                                                     77 mL
                                                                     17 mL
   Urine:
                                                                     77 mL
                                                                     17 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,129 mL
                                                                    710 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 426 (426 - 540) mL
   PS : 12 cmH2O
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 66
   PIP: 18 cmH2O
   SpO2: 98%
   ABG: ///22/
   Ve: 14.8 L/min
   Physical Examination
   Gen: intubated, not sedated, moving ext spontaneously, not opending
   eyes
   Chest: CTAB
   CV: tachy, regular no M
   Abd: soft NT/ND + BS
   Extr: no edema, blister on L toe stable
   Labs / Radiology
   8.8 g/dL
   12 K/uL
   197 mg/dL
   3.6 mg/dL
   22 mEq/L
   3.9 mEq/L
   40 mg/dL
   94 mEq/L
   136 mEq/L
   25.2 %
   0.3 K/uL
        [image002.jpg]
                             [**2150-2-12**]  05:04 PM
                             [**2150-2-13**]  05:42 AM
                             [**2150-2-14**]  05:01 AM
                             [**2150-2-14**]  07:41 AM
                             [**2150-2-14**]  03:15 PM
                             [**2150-2-14**]  03:50 PM
                             [**2150-2-15**]  02:33 AM
                             [**2150-2-15**]  06:33 AM
                             [**2150-2-15**]  05:20 PM
                             [**2150-2-16**]  04:13 AM
   WBC
   0.8
   0.5
   0.4
   0.3
   0.4
   0.3
   Hct
   27.1
   27.9
   26.6
   26.8
   26.2
   25.2
   Plt
   73
   36
   27
   13
   40
   23
   12
   Cr
   3.6
   3.3
   2.7
   3.3
   3.6
   TropT
   0.03
   0.04
   TCO2
   14
   14
   17
   Glucose
   122
   80
   133
   137
   197
   Other labs: PT / PTT / INR:15.6/32.6/1.4, CK / CKMB /
   Troponin-T:310/2/0.04, ALT / AST:10/36, Alk Phos / T Bili:329/1.1,
   Differential-Neuts:87.0 %, Band:0.0 %, Lymph:13.0 %, Mono:0.0 %,
   Eos:0.0 %, Lactic Acid:1.3 mmol/L, LDH:405 IU/L, Ca++:7.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Micro:
   Sputum: oral secretions, cx cancelled
   Blood: no new + cultures since [**2-11**]
   CXR: increased pulm edema c/w prior film, ETT and NG tips difficult to
   see, ETT w/in thoracic inlet
   Assessment and Plan
   61 year old female with biphenotypic leukemia admitted with persistent
   neutropenia and high grade VRE bacteremia attributed to line infection
   and septic thrombophlebitis, now s/p excision right basilic vein on
   [**2-11**], transferred from OR intubated with transient hypotension, now
   with RF on HD and AMS
   1. Altered mental status:  head CT on [**2-9**] with no acute changes.  MRI
   last week; no gado given, but no focal abnormalities seen; decreased
   signal seen within the bony structures which could be secondary to
   patient's leukemia.  Portable EEG (20min) neg for SZ activity on prelim
   report.  ? of leukemic infiltration of CSF.  On exam, pt is moving ext
   spontaneously today, which is improved from yest.
   - Appreciate Neuro input; holding off on LP since pt is already on abx
   and neutropenic and thrombocytopenic, so risks high and unclear that
   would change management
   - 24 hour EEG today
   2. Sepsis: high grade VRE bactermemia [**2-3**] PICC. s/p excision of R
   basilica vein on [**2-11**]. Last + blood culture on [**2-11**] pre-OR.
   - continue daptomycin + zosyn
   - f/up surveillance cultures
   - f/u ID recs; will change to linezolid if more recent Cxs turn
   positive
   3. ARF, anuric: likely ATN from hypotension vs gent. HD line placed
   yesterday, got HD yest PM.
   - s/p HD yesterday, next run tomorrow
   - avoid nephrotoxic agents
   - appreciate renal input
   - holding acyclovir
   4. Resp failure: intubated for OR, now with persistently poor MS/not
   waking up. CXR with clear lungs.  ABGs with high PaO2, persistent
   respiratory alkalosis.  Failed SBT yesterday [**2-3**] tachypnea and low VTs,
   and had low NIFs.  Today, moving extremities.
   - recheck NIF
   - SBT today
   - resend sputum cx
   5. Acid-Base: normal pH, gap metabolic acidosis from renal failure.
   Respiratory alkalosis: maybe sepsis, partially compensatory for
   acidosis.
   - monitor
   6. Biphenotypic Leukemia/pancytopenia: patient is s/p hyper CVAD x 2,
   MEC and clofarabine and ara-C, now with persistent neutropenia and
   thrombocytopenia and decreased ability to clear infection and
   bacteremia.
   - check ANC daily
   - transfuse for platelets<10,000 or any signs of bleeding and HCT<24
   - f/up with Oncology team re: WBC transfusions
   - continue neupogen
   - review smear re: ?shistocytes
   7. H/O positive PPD: continue prior regimen of moxifloxacin 400mg daily
   as per prior ID recs
   ICU Care
   Nutrition: Fibersource HN (Full) - [**2150-2-16**] 03:02 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-2-13**] 12:40 PM
   22 Gauge - [**2150-2-14**] 09:32 PM
   Prophylaxis:
   DVT: boots, holding heparin for low plts
   Stress ulcer: PPI, will change to PNGT
   VAP: chlorhexidine
   Communication:  with husband and brother
   [**Name (NI) 36**] status: Full code
   Disposition : ICU
   Total time spent: 40 min CCT

2150-02-17 07:25:00 Physician Resident Progress Note
Chief Complaint: Reason for MICU transfer: Post-operative hypotension,
   remains intubated
   .
   Chief Complaint: VRE bacteremia
   24 Hour Events:
 SPUTUM CULTURE - At [**2150-2-16**] 12:38 PM
 BLOOD CULTURED - At [**2150-2-16**] 12:39 PM
 URINE CULTURE - At [**2150-2-16**] 04:48 PM
   [**2-16**]
   - had temp 100.6, pan-cultured, continued on current abx
   (dapto/zosyn/vori)
   - Neuro recommend LP r/o carcinomatous meningitis vs infectious
   etiology (given immunosuppression) ([**Pager number 13363**])
   - Got HD today; next HD on Wedns
   - Platelets 12 w/ small amounts of hematuria -> transfused; in AM 8 ->
   transfused platelets
   Patient unable to provide history: Encephalopathy
   Allergies:
   Morphine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Daptomycin - [**2150-2-15**] 07:39 PM
   Voriconazole - [**2150-2-16**] 07:51 PM
   Piperacillin/Tazobactam (Zosyn) - [**2150-2-16**] 11:30 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2150-2-16**] 12:01 PM
   Pantoprazole (Protonix) - [**2150-2-16**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-2-17**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.8
C (100.1
   HR: 107 (96 - 121) bpm
   BP: 138/88(100) {106/61(71) - 181/93(110)} mmHg
   RR: 16 (11 - 33) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 100.9 kg (admission): 105.5 kg
           Total In:
                                                                  2,464 mL
                                                                    531 mL
   PO:
           TF:
                                                                  1,422 mL
                                                                    403 mL
   IVF:
                                                                    464 mL
                                                                     73 mL
   Blood products:
                                                                    294 mL
                                                                     54 mL
   Total out:
                                                                  3,096 mL
                                                                     15 mL
   Urine:
                                                                     56 mL
                                                                     15 mL
   NG:
                                                                     40 mL
   Stool:
   Drains:
   Balance:
                                                                   -632 mL
                                                                    516 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 642 (426 - 666) mL
   PS : 15 cmH2O
   RR (Set): 8
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 189
   PIP: 20 cmH2O
   SpO2: 98%
   ABG: ///34/
   Ve: 11.5 L/min
   Physical Examination
   GEN: Opening eyes and moving all four extremities to command, slightly
   agitated
   CV: RRR, no RMG
   PULM: CTAB anteriorly
   ABD: Soft, NTND +BS
   EXT: No edema
   Labs / Radiology
   8 K/uL
   8.3 g/dL
   141 mg/dL
   3.1 mg/dL
   34 mEq/L
   3.8 mEq/L
   39 mg/dL
   97 mEq/L
   140 mEq/L
   23.9 %
   0.2 K/uL
        [image002.jpg]
                             [**2150-2-14**]  05:01 AM
                             [**2150-2-14**]  07:41 AM
                             [**2150-2-14**]  03:15 PM
                             [**2150-2-14**]  03:50 PM
                             [**2150-2-15**]  02:33 AM
                             [**2150-2-15**]  06:33 AM
                             [**2150-2-15**]  05:20 PM
                             [**2150-2-16**]  04:13 AM
                             [**2150-2-16**]  10:58 AM
                             [**2150-2-17**]  04:47 AM
   WBC
   0.5
   0.4
   0.3
   0.4
   0.3
   0.2
   Hct
   27.9
   26.6
   26.8
   26.2
   25.2
   23.9
   Plt
   36
   27
   13
   40
   23
   12
   37
   8
   Cr
   3.3
   2.7
   3.3
   3.6
   3.1
   TropT
   0.03
   0.04
   TCO2
   14
   17
   Glucose
   80
   133
   137
   197
   141
   Other labs: PT / PTT / INR:14.3/30.9/1.2, CK / CKMB /
   Troponin-T:310/2/0.04, ALT / AST:21/36, Alk Phos / T Bili:339/1.5,
   Differential-Neuts:87.0 %, Band:0.0 %, Lymph:13.0 %, Mono:0.0 %,
   Eos:0.0 %, Lactic Acid:1.3 mmol/L, LDH:412 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Imaging: CXR AP [**2150-2-16**]:
   FINDINGS: In comparison with study of [**2-15**], the monitoring and support
   devices remain in place. The heart is normal in size and the lungs are
   free
   of acute pneumonia.
   Microbiology: [**2150-2-16**] Sputum Cancelled.
   [**2150-2-17**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2150-2-16**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2150-2-16**]  URINE URINE CULTURE-PENDING INPATIENT
   [**2150-2-16**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2150-2-16**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2150-2-16**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2150-2-15**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2150-2-14**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2150-2-13**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2150-2-12**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2150-2-11**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O HYPOTENSION (NOT SHOCK)
 .H/O RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O PANCYTOPENIA
   61 year old female with biphenotypic leukemia admitted with persistent
   neutropenia and high grade VRE bacteremia attributed to line infection
   and septic thrombophlebitis, now s/p excision right basilic vein on
   [**2-11**], transferred from OR intubated with transient hypotension, now
   with RF on HD and AMS.
   #. AMS: Improving! Opened her eyes to command, moved all 4 extremities
   to command, Ddx broad and includes carcinomatous spread, infxs (though
   no growth on recent blood cx), metabolic (patient s/p HD sessions),
   seizure activity.  20 min EEG negative. MRI of head non-revealing for
   bleed/edema/mets/meningeal inflammation but w/ decreased signaling in
   bony structures possibly [**2-3**] leukemia.  NIFs improved from yesterday.
   Patient has been evaluated by neurology.  Certainly component of
   electrolyte abnormalities.
   - [**Hospital1 7**] Lytes with aggressive repletion
   - Plan for 24 hr EEG
   - Continue HD
   - Continue treating high grade bacteremia as outlined below
   - Defer LP at this time given thrombocytopenia and neutropenia and
   unlikely to change management
   # SEPSIS, high grade VRE bactermemia [**2-3**] PICC. No blood cultures have
   turned positive since the OR suggesting a possible improvement by the
   white cell transfusion and/or removing this significant nidus of
   infection. If becomes bacteremic again will consider second white cell
   infusion and/or linezolid.
   - Continue broad coverage antibiotics with daptomycin, zosyn
   - Continue surveillance cultures
   - F/u ID recs
   # ARF, anuric: S/p HD. Likely [**2-3**] ATN from hypotension vs gent
   - avoid nephrotoxic agents
   - appreciate renal recommendations
   - holding acyclovir
   - continue HD, next session Wednesday
   # Respiratory failure: Intubated for line placement and since has
   failed of SBT given AMS. No increase in secretions or CXR Elevated
   bicarbonate, potential respiratory alkalosis. Question of opacity on
   CXR.
   - Daily RISBI, SBTs
   - Daily NIFs
   - Monitor mental status and will not extubate until mental status
   clears such that pt can protect her airway
   - Monitor for increased secretions, fevers
   - Resend sputum
   - Recheck VBG
   - VAP PPX
   - Possible extubation based on SBT results
   # Acid-Base: Gap metabolic acidosis from renal failure. Respiratory
   alkalosis: maybe sepsis or CNS disease, partially compensatory for
   acidosis.
   - monitor
   - Recheck VBG
   # Biphenotypic Leukemia/pancytopenia: s/p platelets. Patient is s/p
   hyper CVAD x 2, MEC and clofarabine and ara-C, now with persistent
   neutropenia and thrombocytopenia and decreased ability to clear
   infection and bacteremia.  No schistocytes seen on smear, though
   platelets low again.
   - Platelets today given platelets 8
   - Daily ANC after granulocyte infusion
   - maintain an active type and screen
   - transfuse for platelets<10,000 or any signs of bleeding and HCT<24
   - continue neupogen
   #) H/O positive PPD: continue prior regimen of moxifloxacin 400mg daily
   as per prior ID recs
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2150-2-16**] 03:02 AM 55 mL/hour, hold at MN for
   anticipation of extubation tomorrow
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-2-13**] 12:40 PM
   22 Gauge - [**2150-2-14**] 09:32 PM
   Prophylaxis:
   DVT: pneumoboots (given low platelets)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2150-02-17 11:46:00 Physician Attending Progress Note
Chief Complaint: RF, AMS,sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61F biphenotypic leukemia admitted with persistent neutropenia and high
   grade VRE bacteremia attributed to line infection and septic
   thrombophlebitis, now s/p excision right basilic vein on [**2-11**],
   transferred from OR intubated with transient hypotension, now with AMS
   and RF on HD
   24 Hour Events:
 SPUTUM CULTURE - At [**2150-2-16**] 12:38 PM
 BLOOD CULTURED - At [**2150-2-16**] 12:39 PM
 URINE CULTURE - At [**2150-2-16**] 04:48 PM
   remains intubated, obtunded
   febrile to 100.6 and pan cx'd
   dialyzed
   transfused 1 plt yesterday, 1 this am
   Allergies:
   Morphine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Daptomycin - [**2150-2-15**] 07:39 PM
   Voriconazole - [**2150-2-16**] 07:51 PM
   Piperacillin/Tazobactam (Zosyn) - [**2150-2-17**] 10:16 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2150-2-16**] 12:01 PM
   Pantoprazole (Protonix) - [**2150-2-16**] 09:00 PM
   Other medications:
   per [**Month (only) **] -reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-2-17**] 11:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.8
C (100.1
   HR: 102 (96 - 121) bpm
   BP: 142/70(85) {106/61(71) - 181/93(110)} mmHg
   RR: 17 (11 - 33) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 100.9 kg (admission): 105.5 kg
           Total In:
                                                                  2,464 mL
                                                                  1,066 mL
   PO:
           TF:
                                                                  1,422 mL
                                                                    623 mL
   IVF:
                                                                    464 mL
                                                                    164 mL
   Blood products:
                                                                    294 mL
                                                                    204 mL
   Total out:
                                                                  3,096 mL
                                                                     15 mL
   Urine:
                                                                     56 mL
                                                                     15 mL
   NG:
                                                                     40 mL
   Stool:
   Drains:
   Balance:
                                                                   -632 mL
                                                                  1,051 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 778 (426 - 778) mL
   PS : 15 cmH2O
   RR (Set): 8
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 189
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: ///34/
   Ve: 8.2 L/min
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal) no m
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  warm
   Neurologic: Follows simple commands intermittently, moving
   spontaneously all ext
   Labs / Radiology
   8.3 g/dL
   8 K/uL
   141 mg/dL
   3.1 mg/dL
   34 mEq/L
   3.8 mEq/L
   39 mg/dL
   97 mEq/L
   140 mEq/L
   23.9 %
   0.2 K/uL
        [image002.jpg]
                             [**2150-2-14**]  05:01 AM
                             [**2150-2-14**]  07:41 AM
                             [**2150-2-14**]  03:15 PM
                             [**2150-2-14**]  03:50 PM
                             [**2150-2-15**]  02:33 AM
                             [**2150-2-15**]  06:33 AM
                             [**2150-2-15**]  05:20 PM
                             [**2150-2-16**]  04:13 AM
                             [**2150-2-16**]  10:58 AM
                             [**2150-2-17**]  04:47 AM
   WBC
   0.5
   0.4
   0.3
   0.4
   0.3
   0.2
   Hct
   27.9
   26.6
   26.8
   26.2
   25.2
   23.9
   Plt
   36
   27
   13
   40
   23
   12
   37
   8
   Cr
   3.3
   2.7
   3.3
   3.6
   3.1
   TropT
   0.03
   0.04
   TCO2
   14
   17
   Glucose
   80
   133
   137
   197
   141
   Other labs: PT / PTT / INR:14.3/30.9/1.2, CK / CKMB /
   Troponin-T:310/2/0.04, ALT / AST:21/36, Alk Phos / T Bili:339/1.5,
   Differential-Neuts:87.0 %, Band:0.0 %, Lymph:13.0 %, Mono:0.0 %,
   Eos:0.0 %, Lactic Acid:1.3 mmol/L, LDH:412 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Imaging: cxr--et appears high, clearer lung fields
   Assessment and Plan
   #  Altered mental status: unremarkable work-up to date (head CT, MRI,
   and portable EEG), onc team feels unlikely to be CNS involvement of
   malignancy
   MS is slowly omproving and suspect is [**2-3**] toxic metabolic process /
   underlying delirium,
   -- Appreciate Neuro input; will hold on [**Name (NI) 13370**] pt on broad abx,
   neutropenic, thrombocytopenic, and feel risks from this procedure are
   high and that it is unlikely to change management
   --continue to monitor neuro status, 24 hr eeg monitoring, avoid
   sedating meds
   # Resp failure: intubated initially for OR and continued for airway
   protection given persistently poor MS, no underlying pulm process or
   ongoing weakness
   - SBT today
   # VRE bacteremia --[**2-3**] PICC, now s/p excision of R basilica vein on
   [**2-11**]. Last + blood culture on [**2-11**] pre-OR.
   - continue daptomycin + zosyn
   - surveillance cxs
   - Id following, with plan to change to linezolid if repeat cxs turn
   positive
    # ARF: anuric, likely ATN from hypotension vs gent toxicity
   -- HD per schedule
   --avoid nephrotoxic agents, renally dose meds, holding acyclovir
   # Acid-Base status: now with new elevated serum bicarb
   - check vbg/abg and monitor
   # Biphenotypic Leukemia/pancytopenia: s/p hyper CVAD x 2, MEC and
   clofarabine and ara-C, now with persistent neutropenia and
   thrombocytopenia and decreased ability to clear infection and
   bacteremia.
   - maintain active type and scan, transfuse for platelets<10,000 or any
   signs of bleeding and HCT<24
   - daily ANC
   - continue neupogen
   - additional Oncology recs
   # H/O positive PPD: continue prior regimen of moxifloxacin 400mg daily
   as per prior ID recs
   Remainder as per resident note
   ICU Care
   Nutrition: hold TFs for possible extubation
   Fibersource HN (Full) - [**2150-2-17**] 03:55 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-2-13**] 12:40 PM
   22 Gauge - [**2150-2-14**] 09:32 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: family updated during rounds
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2150-02-18 08:03:00 Physician Resident Progress Note
Chief Complaint: resiratory failure
   24 Hour Events:
   - SBT, went up to RR of 35 and failed. Currently doing well on [**10-6**].
   - Holding tube feeds at MN to prime for another attempt for possible
   extubation
   - low urine output 20cc/kg/hr, gave 500cc bolus
   - No new recs from BMT, continue current plan
   - Renal says HD on Wed, will try negative 3L if pressures allow
   - ID says repeat sputum given fever and to obtain RUQ to evaluate
   ?nodules (unclear handwriting)
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Morphine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Voriconazole - [**2150-2-16**] 07:51 PM
   Daptomycin - [**2150-2-17**] 08:13 PM
   Piperacillin/Tazobactam (Zosyn) - [**2150-2-18**] 12:12 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-2-17**] 08:15 PM
   Fentanyl - [**2150-2-17**] 08:46 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Genitourinary: Foley
   Flowsheet Data as of  [**2150-2-18**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.3
C (97.3
   HR: 89 (81 - 111) bpm
   BP: 122/73(84) {104/52(65) - 226/186(197)} mmHg
   RR: 30 (17 - 39) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 95.5 kg (admission): 105.5 kg
           Total In:
                                                                  1,949 mL
                                                                  1,079 mL
   PO:
           TF:
                                                                  1,159 mL
   IVF:
                                                                    462 mL
                                                                    680 mL
   Blood products:
                                                                    204 mL
                                                                    399 mL
   Total out:
                                                                    255 mL
                                                                     95 mL
   Urine:
                                                                    180 mL
                                                                     95 mL
   NG:
                                                                     75 mL
   Stool:
   Drains:
   Balance:
                                                                  1,694 mL
                                                                    984 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 359 (351 - 778) mL
   PS : 8 cmH2O
   RR (Set): 8
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 80
   PIP: 13 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 10.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   5 K/uL
   8.2 g/dL
   139 mg/dL
   3.7 mg/dL
   27 mEq/L
   3.9 mEq/L
   56 mg/dL
   97 mEq/L
   138 mEq/L
   23.8 %
   0.2 K/uL
        [image002.jpg]
                             [**2150-2-14**]  03:15 PM
                             [**2150-2-14**]  03:50 PM
                             [**2150-2-15**]  02:33 AM
                             [**2150-2-15**]  06:33 AM
                             [**2150-2-15**]  05:20 PM
                             [**2150-2-16**]  04:13 AM
                             [**2150-2-16**]  10:58 AM
                             [**2150-2-17**]  04:47 AM
                             [**2150-2-17**]  04:45 PM
                             [**2150-2-18**]  01:57 AM
   WBC
   0.4
   0.3
   0.4
   0.3
   0.2
   0.3
   0.2
   Hct
   26.6
   26.8
   26.2
   25.2
   23.9
   23.6
   23.8
   Plt
   27
   13
   40
   23
   12
   37
   8
   21
   5
   Cr
   2.7
   3.3
   3.6
   3.1
   3.4
   3.7
   TropT
   0.04
   TCO2
   17
   Glucose
   133
   137
   197
   141
   175
   139
   Other labs:
    PT / PTT / INR:14.6/32.8/1.3
   ALT / AST:15/33
    Alk Phos / T Bili:243/1.9 (t bili trending up)
   Differential-Neuts:87.0 %, Band:0.0 %, Lymph:13.0 %, Mono:0.0 %,
   Eos:0.0 %, Lactic Acid:1.6 mmol/L, LDH:356 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.9 mg/dL
   Fluid analysis / Other labs: Gran-Ct: 90
   platelets trending down
   Imaging: .
   Microbiology:
[**2150-2-18**] 1:57 am SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2150-2-18**]):
      [**10-26**] PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS IN SHORT CHAINS.
   RESPIRATORY CULTURE (Preliminary):
   FUNGAL CULTURE (Preliminary):
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   Biphenotypic
   61 year old female with biphenotypic leukemia admitted with persistent
   neutropenia and high grade VRE bacteremia attributed to line infection
   and septic thrombophlebitis, now s/p excision right basilic vein on
   [**2-11**], transferred from OR intubated with transient hypotension, now
   with RF on HD and AMS.
   #. AMS: Improving! Opened her eyes to command, moved all 4 extremities
   to command, Ddx broad and includes carcinomatous spread, infxs (though
   no growth on recent blood cx), metabolic (patient s/p HD sessions),
   seizure activity.  20 min EEG negative. MRI of head non-revealing for
   bleed/edema/mets/meningeal inflammation but w/ decreased signaling in
   bony structures possibly [**2-3**] leukemia.  NIFs improved from yesterday.
   Patient has been evaluated by neurology.  Certainly component of
   electrolyte abnormalities.
   - [**Hospital1 7**] Lytes with aggressive repletion
   - Plan for 24 hr EEG
   - Continue HD
   - Continue treating high grade bacteremia as outlined below
   - Defer LP at this time given thrombocytopenia and neutropenia and
   unlikely to change management
   # SEPSIS, high grade VRE bactermemia [**2-3**] PICC. No blood cultures have
   turned positive since the OR suggesting a possible improvement by the
   white cell transfusion and/or removing this significant nidus of
   infection. If becomes bacteremic again will consider second white cell
   infusion and/or linezolid.
   - Continue broad coverage antibiotics with daptomycin, zosyn
   - Continue surveillance cultures
   - F/u ID recs
   # ARF, anuric: S/p HD. Likely [**2-3**] ATN from hypotension vs gent
   - avoid nephrotoxic agents
   - appreciate renal recommendations
   - holding acyclovir
   - continue HD, next session Wednesday
   # Respiratory failure: Intubated for line placement and since has
   failed of SBT given AMS. No increase in secretions or CXR Elevated
   bicarbonate, potential respiratory alkalosis. Question of opacity on
   CXR.
   - Daily RISBI, SBTs
   - Daily NIFs
   - Monitor mental status and will not extubate until mental status
   clears such that pt can protect her airway
   - Monitor for increased secretions, fevers
   - Resend sputum
   - Recheck VBG
   - VAP PPX
   - Possible extubation based on SBT results
   # Acid-Base: Gap metabolic acidosis from renal failure. Respiratory
   alkalosis: maybe sepsis or CNS disease, partially compensatory for
   acidosis.
   - monitor
   - Recheck VBG
   # Biphenotypic Leukemia/pancytopenia: s/p platelets. Patient is s/p
   hyper CVAD x 2, MEC and clofarabine and ara-C, now with persistent
   neutropenia and thrombocytopenia and decreased ability to clear
   infection and bacteremia.  No schistocytes seen on smear, though
   platelets low again.
   - Platelets today given platelets 8
   - Daily ANC after granulocyte infusion
   - maintain an active type and screen
   - transfuse for platelets<10,000 or any signs of bleeding and HCT<24
   - continue neupogen
   #) H/O positive PPD: continue prior regimen of moxifloxacin 400mg daily
   as per prior ID recs
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2150-2-16**] 03:02 AM 55 mL/hour, hold at MN for
   anticipation of extubation tomorrow
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-2-13**] 12:40 PM
   22 Gauge - [**2150-2-14**] 09:32 PM
   Prophylaxis:
   DVT: pneumoboots (given low platelets)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2150-02-18 12:48:00 Physician Attending Progress Note
Chief Complaint: AMS, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  61F biphenotypic leukemia admitted with persistent neutropenia
   and high grade VRE bacteremia attributed to line infection and septic
   thrombophlebitis, now s/p excision right basilic vein on [**2-11**],
   transferred from OR intubated with transient hypotension, now with AMS
   and RF on HD
   24 Hour Events:
   failed SBT with RR in 40's, remains on MMV / PS
   Allergies:
   Morphine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Voriconazole - [**2150-2-16**] 07:51 PM
   Daptomycin - [**2150-2-17**] 08:13 PM
   Piperacillin/Tazobactam (Zosyn) - [**2150-2-18**] 08:15 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2150-2-17**] 08:46 PM
   Pantoprazole (Protonix) - [**2150-2-18**] 08:15 AM
   Other medications:
   reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-2-18**] 12:37 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 37.8
C (100
   Tcurrent: 36.4
C (97.5
   HR: 103 (81 - 110) bpm
   BP: 112/66(79) {112/66(79) - 226/186(197)} mmHg
   RR: 38 (17 - 39) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 95.5 kg (admission): 105.5 kg
           Total In:
                                                                  1,949 mL
                                                                  1,269 mL
   PO:
           TF:
                                                                  1,159 mL
   IVF:
                                                                    462 mL
                                                                    820 mL
   Blood products:
                                                                    204 mL
                                                                    399 mL
   Total out:
                                                                    255 mL
                                                                    173 mL
   Urine:
                                                                    180 mL
                                                                    173 mL
   NG:
                                                                     75 mL
   Stool:
   Drains:
   Balance:
                                                                  1,694 mL
                                                                  1,096 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 336 (336 - 469) mL
   PS : 8 cmH2O
   RR (Set): 8
   RR (Spontaneous): 45
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 80
   PIP: 13 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 17.7 L/min
   Physical Examination
   Moving head side to side, but unable to follow commands
   Diminished bb BS, clear ant
   RR
   + BS, NT, soft
   Edematous
   Labs / Radiology
   8.2 g/dL
   42 K/uL
   139 mg/dL
   3.7 mg/dL
   27 mEq/L
   3.9 mEq/L
   56 mg/dL
   97 mEq/L
   138 mEq/L
   23.8 %
   0.2 K/uL
        [image002.jpg]
                             [**2150-2-14**]  03:50 PM
                             [**2150-2-15**]  02:33 AM
                             [**2150-2-15**]  06:33 AM
                             [**2150-2-15**]  05:20 PM
                             [**2150-2-16**]  04:13 AM
                             [**2150-2-16**]  10:58 AM
                             [**2150-2-17**]  04:47 AM
                             [**2150-2-17**]  04:45 PM
                             [**2150-2-18**]  01:57 AM
                             [**2150-2-18**]  07:27 AM
   WBC
   0.3
   0.4
   0.3
   0.2
   0.3
   0.2
   Hct
   26.8
   26.2
   25.2
   23.9
   23.6
   23.8
   Plt
   13
   40
   23
   12
   37
   8
   21
   5
   42
   Cr
   2.7
   3.3
   3.6
   3.1
   3.4
   3.7
   TCO2
   17
   Glucose
   133
   137
   197
   141
   175
   139
   Other labs: PT / PTT / INR:14.6/32.8/1.3, CK / CKMB /
   Troponin-T:310/2/0.04, ALT / AST:15/33, Alk Phos / T Bili:243/1.9
   (1.5), Differential-Neuts:87.0 %, Band:0.0 %, Lymph:13.0 %, Mono:0.0 %,
   Eos:0.0 %, Lactic Acid:1.6 mmol/L, LDH:356 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.9 mg/dL
   Fluid analysis / Other labs: 7.45/40
   Microbiology: sputum--cx pending
   Assessment and Plan
   Active issues include
   #  Altered mental status:  unclear etiology, developed while on antbx
   and after intubation, unremarkable work-up to date (including head CT,
   MRI, and portable EEG), onc team feels unlikely to be CNS involvement
   of malignancy
        MS now seems to be slowly improving, but still waxing and [**Doctor Last Name 533**]
         Suspect is [**2-3**] toxic metabolic process / underlying delirium, and
   possibly sz/post-ictal state
   -- will hold on LP at this time given risks from procedure in setting
   of neutropenic and thrombocytopenic, and given broad antbx
   --continue serial neuro exams
   --repeat EEG, and if abnl will readdress possible LP
   -- trial of haldol since agitated delirium likely contributing
   # Resp failure: agitation and AMS are primary barriers to extubation as
   well as high MV and persistent alkalosis
   - she has a mixed resp and met alkalosis, with high central drive to
   breath
   --continue current PSV, given her high MV (rates in 30-40 range
   regardless of PS or vent changes with TVs .400)  we are hesitant to
   extubate, pt has severe thrombocytopenia and already with bloody ET
   sx.  We will continue to reassess for extubation as MS and hopefully
   central drive/alkalosis improves.
   # VRE bacteremia , has cleared
   - continue daptomycin + zosyn
   - Id following, with plan to change to linezolid if repeat cxs turn
   positive
    # ARF: anuric, likely ATN from hypotension vs gent toxicity
   -- HD per schedule
   --avoid nephrotoxic agents, renally dose meds, holding acyclovir
   # Biphenotypic Leukemia/pancytopenia: s/p hyper CVAD x 2, MEC and
   clofarabine and ara-C, now with persistent neutropenia and
   thrombocytopenia and decreased ability to clear infection and
   bacteremia.
   - maintain active type and scan, transfuse for platelets <10,000/signs
   of bleeding and HCT<24
   - daily ANC
   - continue neupogen
   - additional Oncology recs
   # H/O positive PPD: continue prior regimen of moxifloxacin 400mg daily
   as per prior ID recs
   Remainder as per resident note
   ICU Care
   Nutrition:
   Comments: resume TFs
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-2-13**] 12:40 PM
   22 Gauge - [**2150-2-14**] 09:32 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held  Comments: updated on am rounds
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   Addendum
   After rounds, pt more alert and able to follow simple commands, nodding
   appropriately to questions. MS remains confusing. Given this waxing and
   [**Doctor Last Name 533**] pattern, I am concerned for possibility of szs and post-ictal
   state.  We are arranging for EEG to assess further.  Family updated.
   Additional crit care time in assessment and family discussion:  20 min

2150-02-19 06:11:00 Physician Resident Progress Note
Chief Complaint: respiratroy failure, altered mental status
   24 Hour Events:
   - persistent head movements
   - [**Name8 (MD) **] RN, haldol made her quiet down a bit but still was moving her
   head
   - head moving improved when propofol increased to 15
   - vascular removed sutures and signed off
   - ETT pulled back 2.5-3cm
   - direct bilirubinmenia, negative RUQ US
   - had routine EEG, results pending, then will consider LP if no
   improvement
   - had nose bleed from right nostril and also blood clot in mouth,
   platelets 5 this am and getting transfused
   - ordered 1 unit pRBCs for Hct 22.1
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   History obtained from [**Hospital 15**] Medical recordsMorphine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Voriconazole - [**2150-2-16**] 07:51 PM
   Daptomycin - [**2150-2-17**] 08:13 PM
   Piperacillin/Tazobactam (Zosyn) - [**2150-2-19**] 01:19 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Haloperidol (Haldol) - [**2150-2-18**] 05:20 PM
   Pantoprazole (Protonix) - [**2150-2-18**] 08:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   She opens her eyes.
   Nods no to "do you have any pain?"
   Nods yes to "would you like to have the tube out?"
   Ear, Nose, Throat: Epistaxis, OG / NG tube
   Nutritional Support: NPO
   Genitourinary: Foley, Dialysis
   Heme / Lymph: Coagulopathy
   Psychiatric / Sleep: Delirious
   Flowsheet Data as of  [**2150-2-19**] 06:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 97 (87 - 118) bpm
   BP: 133/73(87) {112/59(73) - 200/143(149)} mmHg
   RR: 32 (30 - 41) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100 kg (admission): 105.5 kg
             Total In:
                                                                  1,581 mL
                                                                    157 mL
   PO:
             TF:
   IVF:
                                                                  1,132 mL
                                                                    157 mL
   Blood products:
                                                                    399 mL
   Total out:
                                                                  3,088 mL
                                                                      0 mL
   Urine:
                                                                    288 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,507 mL
                                                                    158 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 393 (312 - 541) mL
   PS : 8 cmH2O
   RR (Set): 8
   RR (Spontaneous): 38
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 85
   PIP: 14 cmH2O
   SpO2: 99%
   ABG: ///24/
   Ve: 14 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube, right nare packed
   with gauze, bloody
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Bronchial: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, steri strips on left arm surgical wound. no e/o infection
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Sedated, Tone: Not assessed, squeezes hands,
   moves feet, answers questions
   Labs / Radiology
   42 K/uL
   7.7 g/dL
   155 mg/dL
   2.9 mg/dL
   24 mEq/L
   3.7 mEq/L
   38 mg/dL
   98 mEq/L
   140 mEq/L
   22.1 %
   0.4 K/uL
        [image002.jpg]
                             [**2150-2-15**]  02:33 AM
                             [**2150-2-15**]  06:33 AM
                             [**2150-2-15**]  05:20 PM
                             [**2150-2-16**]  04:13 AM
                             [**2150-2-16**]  10:58 AM
                             [**2150-2-17**]  04:47 AM
                             [**2150-2-17**]  04:45 PM
                             [**2150-2-18**]  01:57 AM
                             [**2150-2-18**]  07:27 AM
                             [**2150-2-19**]  03:22 AM
   WBC
   0.3
   0.4
   0.3
   0.2
   0.3
   0.2
   0.4
   Hct
   26.8
   26.2
   25.2
   23.9
   23.6
   23.8
   22.1
   Plt
   13
   40
   23
   12
   37
   8
   21
   5
   42
   Cr
   2.7
   3.3
   3.6
   3.1
   3.4
   3.7
   2.9
   Glucose
   133
   137
   197
   141
   175
   139
   155
   Other labs:
   PT / PTT / INR:15.9/32.4/1.4 INR trending up
   ALT / AST:[**11-23**], Alk Phos / T Bili:170/2.3,
   Differential-Neuts:87.0 %, Band:0.0 %, Lymph:13.0 %, Mono:0.0 %,
   Eos:0.0 %,
   LDH:304 IU/L,
   Ca++:7.7 mg/dL, Mg++:1.7 mg/dL, PO4:1.4 mg/dL
   Fluid analysis / Other labs:
   ENZYMES & BILIRUBIN
                                     ALT
                                     AST
                                   LD(LDH)
                                   CK(CPK)
                                   AlkPhos
                                   Amylase
                                   TotBili
                                   DirBili
                                   IndBili
   [1][**2150-2-19**] 03:22AM
                                     11
                                     22
                                    304*
   170*
   2.3*
                                    1.9*
                                     0.4
   [2][**2150-2-18**] 01:57AM
                                     15
                                     33
                                    356*
   243*
   1.9*
                                    1.4*
                                     0.5
   Microbiology: no new culture growth
   sputum with GPCs, culture pending.
   Assessment and Plan
   61 year old female with biphenotypic leukemia admitted with persistent
   neutropenia and high grade VRE bacteremia attributed to line infection
   and septic thrombophlebitis, now s/p excision right basilic vein on
   [**2-11**], bacteremia resolved but still intubated [**2-3**] AMS.
   1. Respiratory failure:
   Seems less agitated today. Has done well on MMV. Mental status
   improved. Still tachypnic. GPCs in sputum gram stain, culture pending.
   - consider extubation if mental status continues to clear (would likely
   need platelet transfusion)
   - if still unable to extubate will have to adress trach soon
   - f/u sputum culture
   -  Daily RISBI, SBTs and NIFs
   - Monitor for increased secretions, fevers
   - VAP PPX
   2. AMS:
   Overall still improving. Etiology still a mystery. Seems like delerium
   more than seizure. And with carcinomatosis, would expect it to
   gradually get worse, also timing of onset not c/w cancer or infection.
   Had additional EEG today.
   - appreciate neuro input on etiology and recs
   - f/u EEG read
   - continue to monitor
   - continue haldol if working though a bit unclear
   - if no seizure activity or normal EEG and still not improving will
   consider LP
   - Continue HD
   3. Conjugated hyperblirubinemia
   Likely [**2-3**] sepsis, chronic illness but ddx includes biliary
   obstruction, drug effect. INR also trending up but this may be [**2-3**] poor
   nutrition. RUQ ultrasound negative for biliary ductal dilatation.
   - trend
   - f/u final US read
   - consider repeat imaging if worsening
   4.  ARF
   Still  basically anuric: HD yesterday. Likely [**2-3**] ATN from hypotension
   vs gent
   - avoid nephrotoxic agents
   - appreciate renal recommendations
   - holding acyclovir
   - continue HD
   5.  Acid-Base:
   Gap metabolic acidosis from renal failure. Also with primary
   respiratory alkalosis: maybe sepsis or CNS disease, PE on differential,
   partially compensatory for acidosis.
   - monitor vitals and VBGs
   6.  VRE bactermemia
   [**2-3**] PICC. No blood cultures have turned positive since the OR
   - Continue broad coverage antibiotics with daptomycin, zosyn
   - f/u peniding cultures
   - appreciate ID recs regarding length of treatment
   7. Epistaxis
   [**2-3**] low platelets
   - afrin
   - transfuse platelets
   8.  Biphenotypic Leukemia/pancytopenia:
   - Platelets today given platelets 5
   - Daily ANC
   - maintain an active type and screen
   - transfuse for platelets<10,000 or any signs of bleeding and HCT<24
   - continue neupogen
   9. H/O positive PPD: continue prior regimen of moxifloxacin 400mg daily
   as per prior ID recs for prophylaxis of reactivation
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2150-2-16**] 03:02 AM 55 mL/hour, hold at MN for
   anticipation of extubation tomorrow
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-2-13**] 12:40 PM
   22 Gauge - [**2150-2-14**] 09:32 PM
   Prophylaxis:
   DVT: pneumoboots (given low platelets)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_161%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_162%22);

2150-02-19 10:32:00 Physician Attending Progress Note
Chief Complaint: AMS, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  61F biphenotypic leukemia admitted with persistent neutropenia
   and high grade VRE bacteremia attributed to line infection and septic
   thrombophlebitis, now s/p excision right basilic vein on [**2-11**],
   transferred from OR intubated with transient hypotension,  course c/b
   AMS and RF on HD
   24 Hour Events:
   --haldol for agitated delirium and propofol increased with resolution
   of intermittent head movements
   -- bleeding from R nostril, resolved with plt transfusion
   --had eeg --> result pending
   --ruq us neg for biliary process
   Allergies:
   Morphine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Daptomycin - [**2150-2-17**] 08:13 PM
   Piperacillin/Tazobactam (Zosyn) - [**2150-2-19**] 07:56 AM
   Voriconazole - [**2150-2-19**] 07:57 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2150-2-18**] 05:20 PM
   Pantoprazole (Protonix) - [**2150-2-19**] 07:57 AM
   Other medications:
   reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-2-19**] 10:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.3
C (99.1
   HR: 112 (92 - 118) bpm
   BP: 143/77(92) {110/53(66) - 200/143(149)} mmHg
   RR: 33 (28 - 41) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 100 kg (admission): 105.5 kg
           Total In:
                                                                  1,581 mL
                                                                    941 mL
   PO:
           TF:
   IVF:
                                                                  1,132 mL
                                                                    288 mL
   Blood products:
                                                                    399 mL
                                                                    604 mL
   Total out:
                                                                  3,088 mL
                                                                     33 mL
   Urine:
                                                                    288 mL
                                                                     33 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,507 mL
                                                                    908 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 361 (312 - 541) mL
   PS : 8 cmH2O
   RR (Set): 8
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 85
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: ///24/
   Ve: 11.3 L/min
   Physical Examination
   More awake, following commands, nodding appropriately
   Coarse BS, basilar rales
   RR
   + BS, NT, soft
   2+ edema
   Labs / Radiology
   7.7 g/dL
   50 K/uL
   155 mg/dL
   2.9 mg/dL
   24 mEq/L
   3.7 mEq/L
   38 mg/dL
   98 mEq/L
   140 mEq/L
   22.1 %
   0.4 K/uL
        [image002.jpg]
                             [**2150-2-15**]  06:33 AM
                             [**2150-2-15**]  05:20 PM
                             [**2150-2-16**]  04:13 AM
                             [**2150-2-16**]  10:58 AM
                             [**2150-2-17**]  04:47 AM
                             [**2150-2-17**]  04:45 PM
                             [**2150-2-18**]  01:57 AM
                             [**2150-2-18**]  07:27 AM
                             [**2150-2-19**]  03:22 AM
                             [**2150-2-19**]  07:17 AM
   WBC
   0.4
   0.3
   0.2
   0.3
   0.2
   0.4
   Hct
   26.2
   25.2
   23.9
   23.6
   23.8
   22.1
   Plt
   40
   23
   12
   37
   8
   21
   5
   42
   50
   Cr
   3.3
   3.6
   3.1
   3.4
   3.7
   2.9
   Glucose
   137
   197
   141
   175
   139
   155
   Other labs: PT / PTT / INR:15.9/32.4/1.4, CK / CKMB /
   Troponin-T:310/2/0.04, ALT / AST:[**11-23**], Alk Phos / T Bili:170/2.3,
   Differential-Neuts:87.0 %, Band:0.0 %, Lymph:13.0 %, Mono:0.0 %,
   Eos:0.0 %, Lactic Acid:1.8 mmol/L, LDH:304 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.7 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
   #  Altered mental status:  unclear etiology, developed while on antbx
   and after intubation, unremarkable work-up to date (including head CT,
   MRI, and portable EEG), onc team feels unlikely to be CNS involvement
   of malignancy
    Suspect is [**2-3**] toxic metabolic process / underlying delirium, possibly
   sz/post-ictal state, uremia or medication effect
   --much improved today
   -- will f/u EEG results
   --monitor neuro exam and avoid sedating meds
   # Resp failure: agitation and AMS  and high MV/ RR (likely from central
   drive) have been primary barriers to extubation, rather than underlying
   pulm process
   --with improvement in agitation and alertness she is now doing well on
   SBT.  Will monitor over 20-30 minutes and move toward extuabtion. Will
   keep HOB elevated for gravity assist.
   # VRE bacteremia , cxs have cleared, remains AF and HD stable
   - continue daptomycin + zosyn (clarify clength of course with ID team)
    # ARF: anuric, likely ATN from hypotension vs gent toxicity
   -- HD per schedule
   --avoid nephrotoxic agents, renally dose meds
    # LFT abnl--RUQ with fatty liver, no active biliary process.  unclear
   etiology
likely medication related (? Vori)
   --continue to monitor
   # Biphenotypic Leukemia/pancytopenia: s/p hyper CVAD x 2, MEC and
   clofarabine and ara-C, now with persistent neutropenia and
   thrombocytopenia
   - maintain active type and scan, transfuse for platelets <10,000/signs
   of bleeding and HCT<24
   - daily ANC
   - continue neupogen
   - additional Oncology recs
   # H/O positive PPD: continue prior regimen of moxifloxacin 400mg daily
   as per prior ID recs
   Remainder as per resident note
   ICU Care
   Nutrition: TFs on hold for extubation, will need to readdress
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-2-13**] 12:40 PM
   22 Gauge - [**2150-2-14**] 09:32 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: family updated at bedside
   Code status: Full code
   Disposition :ICU
   Total time spent: 50
   Addendum
   Pt successfully extubated and appears comfortable, RR 30
s with O2 sats
   100% on FM,  Will monitor closely.
   Family updated
   Additional crit care time: 15 min

2150-02-20 07:49:00 Physician Resident Progress Note
Chief Complaint: Reason for MICU transfer: Post-operative hypotension,
   remains intubated
   .
   Chief Complaint: VRE bacteremia
   24 Hour Events:
 BLOOD CULTURED - At [**2150-2-20**] 05:24 AM
 URINE CULTURE - At [**2150-2-20**] 05:24 AM
 FEVER - 101.1
F - [**2150-2-20**] 04:00 AM
   [**2-19**]
   - Pt successfully extubated; has been getting weaned from 100% -> 35%
   fiO2
   - Per neuro no seizures on EEG (but not finalized on OMR)
   - ID recommended cont w/ current regimen, patient will need extended
   course once counts recover, Continue to watch lfts and consider
   stopping vori if bili climbs
   - final read US abdomen:
   1. Diffusely echogenic liver without focal lesions, compatible with
   diffuse fatty infiltrates. Other forms of liver disease or advanced
   liver disease such as fibrosis/cirrhosis cannot be excluded.
   2. No hydroureteronephrosis in either kidney.
   - LFTs: t bili 2.3, d bili 1.9, gtt 400
   - Heme/onc would like another transplant, but will depend on renal
   status, whether patient is dialysis dependent.
   - Spiked fever overnight 101s; got pan-cultured
   - Not able to take POs because of mental status, holding voriconazole
   as is PO, and ID wants to DC vori
   History obtained from Patient
   Patient unable to provide history: Encephalopathy
   Allergies:
   Morphine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Voriconazole - [**2150-2-19**] 07:57 AM
   Daptomycin - [**2150-2-19**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2150-2-20**] 12:29 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-2-19**] 07:57 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-2-20**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.2
C (100.8
   HR: 112 (95 - 118) bpm
   BP: 127/69(81) {127/65(80) - 204/88(115)} mmHg
   RR: 33 (9 - 42) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 101 kg (admission): 105.5 kg
             Total In:
                                                                  1,973 mL
                                                                    127 mL
   PO:
             TF:
   IVF:
                                                                  1,026 mL
                                                                    127 mL
   Blood products:
                                                                    897 mL
   Total out:
                                                                     75 mL
                                                                    190 mL
   Urine:
                                                                     75 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,898 mL
                                                                    -63 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: PSV/SBT
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 405 (361 - 405) mL
   PS : 8 cmH2O
   RR (Set): 8
   RR (Spontaneous): 39
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 13 cmH2O
   SpO2: 97%
   ABG: ///17/
   Ve: 12.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   5 K/uL
   8.1 g/dL
   180 mg/dL
   3.9 mg/dL
   17 mEq/L
   4.0 mEq/L
   54 mg/dL
   96 mEq/L
   140 mEq/L
   22.9 %
   1.1 K/uL
        [image002.jpg]
                             [**2150-2-15**]  05:20 PM
                             [**2150-2-16**]  04:13 AM
                             [**2150-2-16**]  10:58 AM
                             [**2150-2-17**]  04:47 AM
                             [**2150-2-17**]  04:45 PM
                             [**2150-2-18**]  01:57 AM
                             [**2150-2-18**]  07:27 AM
                             [**2150-2-19**]  03:22 AM
                             [**2150-2-19**]  07:17 AM
                             [**2150-2-20**]  04:48 AM
   WBC
   0.4
   0.3
   0.2
   0.3
   0.2
   0.4
   0.4
   1.1
   Hct
   26.2
   25.2
   23.9
   23.6
   23.8
   22.1
   20.6
   22.9
   Plt
   23
   12
   37
   8
   21
   5
   42
   50
   5
   Cr
   3.3
   3.6
   3.1
   3.4
   3.7
   2.9
   3.9
   Glucose
   137
   197
   141
   175
   139
   155
   180
   Other labs: PT / PTT / INR:16.6/30.0/1.5, CK / CKMB /
   Troponin-T:32/2/0.04, ALT / AST:[**10-21**], Alk Phos / T Bili:162/3.6,
   Differential-Neuts:46.0 %, Band:0.0 %, Lymph:10.0 %, Mono:42.0 %,
   Eos:0.0 %, Lactic Acid:1.8 mmol/L, LDH:356 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:1.7 mg/dL
   Microbiology: [**2150-2-20**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   [**2150-2-20**]  URINE URINE CULTURE-PENDING INPATIENT
   [**2150-2-19**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2150-2-18**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY;
   FUNGAL CULTURE-PRELIMINARY INPATIENT - pending
   [**2150-2-17**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2150-2-16**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2150-2-16**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2150-2-16**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL; FUNGAL
   CULTURE-PRELIMINARY INPATIENT
   [**2150-2-16**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2150-2-16**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2150-2-16**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2150-2-15**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2150-2-14**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2150-2-14**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2150-2-13**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2150-2-12**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2150-2-11**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2150-2-11**]  TISSUE GRAM STAIN-FINAL; TISSUE-FINAL; ANAEROBIC
   CULTURE-FINAL; FUNGAL CULTURE-PRELIMINARY INPATIENT
   [**2150-2-11**]  TISSUE GRAM STAIN-FINAL; TISSUE-FINAL; ANAEROBIC
   CULTURE-FINAL; ACID FAST - negative
   CULTURE-PRELIMINARY; ACID FAST SMEAR-FINAL; FUNGAL CULTURE-PRELIMINARY
   INPATIENT - negative
   Assessment and Plan
 THROMBOCYTOPENIA, ACUTE
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 EPISTAXIS (NOSEBLEED)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LIVER FUNCTION ABNORMALITIES
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   Biphenotypic
   61 year old female with biphenotypic leukemia admitted with persistent
   neutropenia and high grade VRE bacteremia attributed to line infection
   and septic thrombophlebitis, now s/p excision right basilic vein on
   [**2-11**], bacteremia resolved but still intubated [**2-3**] AMS.
   1. Respiratory failure: Weaning down O2, improving, however mental
   status worse and still tachypneic. CXR unremarkable.
   - Check ABG
   - consider intubation if respiratory status worsens
   - f/u sputum culture
   2. AMS: Worse today. Cultures pending.
   - appreciate neuro input on etiology and recs
   - f/u EEG read
   - continue to monitor
   - if no seizure activity or normal EEG and still not improving will
   consider LP
   - Continue HD
   3. Conjugated hyperblirubinemia. Worsening.
   - Stop vori per ID
   Likely [**2-3**] sepsis, chronic illness but ddx includes biliary
   obstruction, drug effect. INR also trending up but this may be [**2-3**] poor
   nutrition. RUQ ultrasound negative for biliary ductal dilatation.
   - trend
   - f/u final US read
   - consider repeat imaging if worsening
   4.  ARF
 per renal unclear if this is long term or not.
   Still  basically anuric: HD yesterday. Likely [**2-3**] ATN from hypotension
   vs gent
   - avoid nephrotoxic agents
   - appreciate renal recommendations
   - holding acyclovir
   - continue HD
   5.  Acid-Base:
   Gap metabolic acidosis from renal failure. Also with primary
   respiratory alkalosis: maybe sepsis or CNS disease, PE on differential,
   partially compensatory for acidosis.
   - monitor vitals and VBGs
   6.  VRE bactermemia
   [**2-3**] PICC. No blood cultures have turned positive since the OR
   - Continue broad coverage antibiotics with daptomycin, zosyn
   - f/u peniding cultures
   - appreciate ID recs regarding length of treatment
   7. Epistaxis
   [**2-3**] low platelets
   - afrin
   - transfuse platelets
   8.  Biphenotypic Leukemia/pancytopenia: BMT to consider another
   transplant.
   - Platelets today given platelets 5
   - Daily ANC
   - maintain an active type and screen
   - transfuse for platelets<10,000 or any signs of bleeding and HCT<24
   - continue neupogen
   9. H/O positive PPD: continue prior regimen of moxifloxacin 400mg daily
   as per prior ID recs for prophylaxis of reactivation
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2150-2-16**] 03:02 AM 55 mL/hour, hold at MN for
   anticipation of extubation tomorrow
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-2-13**] 12:40 PM
   22 Gauge - [**2150-2-14**] 09:32 PM
   Prophylaxis:
   DVT: pneumoboots (given low platelets)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2150-02-20 11:58:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2150-2-20**] 05:24 AM
 URINE CULTURE - At [**2150-2-20**] 05:24 AM
 FEVER - 101.1
F - [**2150-2-20**] 04:00 AM
   extubated yesterday
   LFTs increasing so d/c'd vori\
   Allergies:
   Morphine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Voriconazole - [**2150-2-19**] 07:57 AM
   Daptomycin - [**2150-2-19**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2150-2-20**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-2-20**] 08:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-2-20**] 11:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 38.4
C (101.1
   Tcurrent: 36.7
C (98.1
   HR: 108 (95 - 118) bpm
   BP: 142/79(92) {127/65(80) - 162/84(99)} mmHg
   RR: 33 (9 - 42) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 101 kg (admission): 105.5 kg
           Total In:
                                                                  1,973 mL
                                                                    425 mL
   PO:
           TF:
   IVF:
                                                                  1,026 mL
                                                                    225 mL
   Blood products:
                                                                    897 mL
                                                                    200 mL
   Total out:
                                                                     75 mL
                                                                    255 mL
   Urine:
                                                                     75 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,898 mL
                                                                    170 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 97%
   ABG: 7.54/21/119/17/-1
   PaO2 / FiO2: 340
   Physical Examination
   General Appearance: edematous
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: No(t) Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm, No(t) Rash:
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   31 K/uL
   180 mg/dL
   3.9 mg/dL
   17 mEq/L
   4.0 mEq/L
   54 mg/dL
   96 mEq/L
   140 mEq/L
   22.9 %
   1.1 K/uL
        [image002.jpg]
                             [**2150-2-16**]  10:58 AM
                             [**2150-2-17**]  04:47 AM
                             [**2150-2-17**]  04:45 PM
                             [**2150-2-18**]  01:57 AM
                             [**2150-2-18**]  07:27 AM
                             [**2150-2-19**]  03:22 AM
                             [**2150-2-19**]  07:17 AM
                             [**2150-2-20**]  04:48 AM
                             [**2150-2-20**]  09:00 AM
                             [**2150-2-20**]  10:55 AM
   WBC
   0.2
   0.3
   0.2
   0.4
   0.4
   1.1
   Hct
   23.9
   23.6
   23.8
   22.1
   20.6
   22.9
   Plt
   37
   8
   21
   5
   42
   50
   5
   31
   Cr
   3.1
   3.4
   3.7
   2.9
   3.9
   TCO2
   19
   Glucose
   141
   175
   139
   155
   180
   Other labs: PT / PTT / INR:16.6/30.0/1.5, CK / CKMB /
   Troponin-T:32/2/0.04, ALT / AST:[**10-21**], Alk Phos / T Bili:162/3.6,
   Differential-Neuts:46.0 %, Band:0.0 %, Lymph:10.0 %, Mono:42.0 %,
   Eos:0.0 %, Lactic Acid:2.3 mmol/L, LDH:356 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:1.7 mg/dL
   Fluid analysis / Other labs: u/a 10 wbc, 1000 rbc, le/nit neg
   Imaging: no focal process on CXR
   Microbiology: cx's pending, no new grwoth to date
   Assessment and Plan
   #  Altered mental status:  waxing and [**Doctor Last Name 533**], more somnolent today,
   likely multifactorial
delirium, fever, concern for new infection, not
   hypercarbic, no evidence of sz by eeg (f/u final read), ? uremia
   contribution now getting HD .
   --infection work up including c diff
   --Serial
    --Suspect is [**2-3**] toxic metabolic process / underlying delirium,
   possibly sz/post-ictal state, uremia or medication effect
   -- will f/u EEG results
   --monitor neuro exam and avoid sedating meds
   # acid base status
   GAP acidosis
and resp alk
   Gap Increased liekly uremia, now on HD, recheck labs, and send lacate
   Monitor VBG, has high central drive to breath in setting of AMS, fevers
   # fever
HD stable, no longer neutropenic, high concern for nosocmial
   infection, multiple potential sources, no change in oxygenation or CXR,
   vigilant infection [**Last Name (LF) **], [**First Name3 (LF) **] continue current antbx (dapto, zosyn) and
   add empiric flagyl pending c diff
   # VRE bacteremia , cxs have cleared,
   - continue daptomycin + zosyn
   # ARF: anuric, likely ATN from hypotension vs gent toxicity
   -- HD per schedule
   --avoid nephrotoxic agents, renally dose meds
   # LFT abnl--RUQ with fatty liver, no active biliary process.  likely
   medication related (? Vori) which we have now stopped
   --continue to follow daily labs
   # Biphenotypic Leukemia/pancytopenia: s/p hyper CVAD x 2, MEC and
   clofarabine and ara-C, w/ persistent thrombocytopenia
   - maintain active type and scan, transfuse for platelets <10,000/signs
   of bleeding and HCT<24
   - daily ANC
   - continue neupogen as per onc
   - additional Oncology recs
   # H/O positive PPD: continue prior regimen of moxifloxacin 400mg daily
   as per prior ID recs as able to take PO
   Remainder as per resident note
   ICU Care
   Nutrition:  poor MS, consider NGT though will be difficult with her
   thrmobpocytopenia and inf risk  (will d/w onc)
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-2-13**] 12:40 PM
   22 Gauge - [**2150-2-14**] 09:32 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2150-02-20 17:03:00 Physician Resident Progress Note
Chief Complaint: Reason for MICU transfer: Post-operative hypotension,
   remains intubated
   .
   Chief Complaint: VRE bacteremia
   24 Hour Events:
 BLOOD CULTURED - At [**2150-2-20**] 05:24 AM
 URINE CULTURE - At [**2150-2-20**] 05:24 AM
 FEVER - 101.1
F - [**2150-2-20**] 04:00 AM
   [**2-19**]
   - Pt successfully extubated; has been getting weaned from 100% -> 35%
   fiO2
   - Per neuro no seizures on EEG (but not finalized on OMR)
   - ID recommended cont w/ current regimen, patient will need extended
   course once counts recover, Continue to watch lfts and consider
   stopping vori if bili climbs
   - final read US abdomen:
   1. Diffusely echogenic liver without focal lesions, compatible with
   diffuse fatty infiltrates. Other forms of liver disease or advanced
   liver disease such as fibrosis/cirrhosis cannot be excluded.
   2. No hydroureteronephrosis in either kidney.
   - LFTs: t bili 2.3, d bili 1.9, gtt 400
   - Heme/onc would like another transplant, but will depend on renal
   status, whether patient is dialysis dependent.
   - Spiked fever overnight 101s; got pan-cultured
   - Not able to take POs because of mental status, holding voriconazole
   as is PO
   Allergies:
   Morphine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Voriconazole - [**2150-2-19**] 07:57 AM
   Daptomycin - [**2150-2-19**] 09:00 PM
   Metronidazole - [**2150-2-20**] 01:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2150-2-20**] 03:38 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-2-20**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-2-20**] 05:01 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.3
C (99.1
   HR: 107 (95 - 118) bpm
   BP: 117/87(92) {117/65(78) - 162/87(96)} mmHg
   RR: 29 (9 - 42) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 101 kg (admission): 105.5 kg
           Total In:
                                                                  1,973 mL
                                                                    630 mL
   PO:
           TF:
   IVF:
                                                                  1,026 mL
                                                                    430 mL
   Blood products:
                                                                    897 mL
                                                                    200 mL
   Total out:
                                                                     75 mL
                                                                  3,305 mL
   Urine:
                                                                     75 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,898 mL
                                                                 -2,676 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: 7.54/21/119/17/-1
   PaO2 / FiO2: 340
   Physical Examination
   GEN: More lethargic than yesterday, moving all 4 extremities to
   command, slowly opens eyes to tactile stimulation, PERRLA
   CV: RRR, no RMG
   PULM : CTAB anteriorly
   ABD: Soft, NTND +BS
   EXT: 1+ edema
   Labs / Radiology
   31 K/uL
   8.1 g/dL
   180 mg/dL
   3.9 mg/dL
   17 mEq/L
   4.0 mEq/L
   54 mg/dL
   96 mEq/L
   140 mEq/L
   24.1 %
   1.1 K/uL
        [image002.jpg]
                             [**2150-2-16**]  10:58 AM
                             [**2150-2-17**]  04:47 AM
                             [**2150-2-17**]  04:45 PM
                             [**2150-2-18**]  01:57 AM
                             [**2150-2-18**]  07:27 AM
                             [**2150-2-19**]  03:22 AM
                             [**2150-2-19**]  07:17 AM
                             [**2150-2-20**]  04:48 AM
                             [**2150-2-20**]  09:00 AM
                             [**2150-2-20**]  10:55 AM
   WBC
   0.2
   0.3
   0.2
   0.4
   0.4
   1.1
   Hct
   23.9
   23.6
   23.8
   22.1
   20.6
   22.9
   24.1
   Plt
   37
   8
   21
   5
   42
   50
   5
   31
   Cr
   3.1
   3.4
   3.7
   2.9
   3.9
   TCO2
   19
   Glucose
   141
   175
   139
   155
   180
   Other labs: PT / PTT / INR:16.6/30.0/1.5, CK / CKMB /
   Troponin-T:32/2/0.04, ALT / AST:[**10-21**], Alk Phos / T Bili:162/3.6,
   Differential-Neuts:46.0 %, Band:0.0 %, Lymph:10.0 %, Mono:42.0 %,
   Eos:0.0 %, Lactic Acid:2.3 mmol/L, LDH:356 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:1.7 mg/dL
   Imaging: CXR AP [**2150-2-20**]:
   FINDINGS: In comparison with study of [**2-18**], there are lower lung
   volumes.
   Again there is a somewhat ill-defined area of patchy opacification in
   the left
   mid lung zone that could represent a focus of consolidation. Otherwise,
   the
   lungs are essentially clear.
   Endotracheal tube and nasogastric tube have been removed. Central
   catheter remains in place.
   Microbiology: [**2150-2-20**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B
   TEST-PENDING INPATIENT
   [**2150-2-20**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2150-2-20**]  URINE URINE CULTURE-PENDING INPATIENT
   [**2150-2-19**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT  - NEGATIVE
   [**2150-2-19**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2150-2-18**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL; FUNGAL
   CULTURE-PRELIMINARY INPATIENT
   [**2150-2-17**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2150-2-16**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2150-2-16**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2150-2-16**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL; FUNGAL
   CULTURE-PRELIMINARY INPATIENT
 PENDING
   [**2150-2-16**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2150-2-16**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2150-2-16**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2150-2-15**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2150-2-14**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2150-2-14**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   Assessment and Plan
 THROMBOCYTOPENIA, ACUTE
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 EPISTAXIS (NOSEBLEED)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LIVER FUNCTION ABNORMALITIES
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   Biphenotypic
   61 year old female with biphenotypic leukemia admitted with persistent
   neutropenia and high grade VRE bacteremia attributed to line infection
   and septic thrombophlebitis, now s/p excision right basilic vein on
   [**2-11**], bacteremia resolved but still intubated [**2-3**] AMS.
   * With new fevers, worsening coaggulopathy, worsening LFTs, and
   worsening gap is concerning for new infection.
   1. Hypoxia: Pt has been weaned down successfully since extubation.
   Still tachypneic. GPCs in sputum gram stain, culture pending.
   - f/u sputum culture
   - continue to wean down O2
   - CXR
   2. AMS: More lethargic today than yesterday, most likely secondary to
   fever exacerbating slowly recovering toxic-metabolic encephalopathy.
   However still following commands and opening eyes.
   - appreciate neuro input on etiology and recs
   - check ABG
   - F/u recent sputum, blood, urine cx drawn this AM for fever
   - Check C diff
   - Start metronidazole for emperic treatment of c diff
   - f/u final EEG read
   - continue to monitor
   - if no seizure activity or normal EEG and still not improving will
   consider LP
   - Continue HD
   3. Conjugated hyperblirubinemia
   Likely [**2-3**] to drug affect, consider voriconazole. INR also trending up
   but this may be [**2-3**] poor nutrition. RUQ ultrasound negative for biliary
   ductal dilatation.
   - stop voriconazole (per ID not clear what this is treating)
   - trend
   - consider repeat imaging if worsening
   # Coagulopathy: INR rising from 1.2 to 1.3, to 1.4, to 1.5 today.
   Concerning for return of sepsis/DIC in light of fevers.
   - Check DIC labs
   - Monitor
   4.  ARF
   Still  anuric: HD today. Renal thinks this will probably be permenant
   but not impossible for her function to return. Likely [**2-3**] ATN from
   hypotension vs gent
   - avoid nephrotoxic agents
   - appreciate renal recommendations
   - holding acyclovir
   - continue HD
   5.  Acid-Base: Gap severely increased today. Gap metabolic acidosis
   from renal failure. Also with primary respiratory alkalosis: maybe
   sepsis or CNS disease, PE on differential, partially compensatory for
   acidosis. Lactate 2.3.
   - Recheckl lytes and VBGs tonight
   6.  VRE bactermemia
   [**2-3**] PICC. No blood cultures have turned positive since the OR
   - Continue broad coverage antibiotics with daptomycin, zosyn
   - f/u peniding cultures
   - appreciate ID recs regarding length of treatment
   7. Epistaxis- improved
   [**2-3**] low platelets
   - afrin
   - transfuse platelets
   8.  Biphenotypic Leukemia/pancytopenia:
   - Platelets today given platelets 5
   - Daily ANC
   - maintain an active type and screen
   - transfuse for platelets<10,000 or any signs of bleeding and HCT<24
   - continue neupogen
   9. H/O positive PPD: cannot continue prior regimen of moxifloxacin
   400mg daily as per prior ID recs for prophylaxis of reactivation as pt
   cannot take PO
   - D/w ID re alternative tx
   ICU Care
   Nutrition: Hold off on NG tube for 1 day per BMT as no platelets
   Fibersource HN (Full) - [**2150-2-16**] 03:02 AM 55 mL/hour, hold at MN for
   anticipation of extubation tomorrow
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-2-13**] 12:40 PM
   22 Gauge - [**2150-2-14**] 09:32 PM
   Prophylaxis:
   DVT: pneumoboots (given low platelets)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2150-02-21 07:44:00 Physician Resident Progress Note
Chief Complaint: sepsis
   24 Hour Events:
   - With new fevers, worsening coagulopathy, worsening LFTs, and
   worsening gap is concerning for new infection and/or impending sepsis.
   - DIC labs: Fibrinogen in 500s not c/w DIC
   - Elevated AG in AM, PM gap improved after dialysis, lactate remained
   stable as did PM VBG
   -Added Flagyl given fevers for concern for C diff
   -Gave platelets again for platelets <5
   -BMT does not want an NG tube, perhaps tomorrow if still not awake
   -No changes per ID, neuro, or renal
   -HD with 3L off
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   History obtained from [**Hospital 15**] Medical recordsMorphine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Voriconazole - [**2150-2-19**] 07:57 AM
   Daptomycin - [**2150-2-19**] 09:00 PM
   Metronidazole - [**2150-2-21**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2150-2-21**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-2-20**] 07:52 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-2-21**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.2
C (97.2
   HR: 103 (94 - 114) bpm
   BP: 139/74(89) {117/65(78) - 144/87(97)} mmHg
   RR: 23 (22 - 38) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 101 kg (admission): 105.5 kg
           Total In:
                                                                    710 mL
                                                                  1,116 mL
   PO:
           TF:
   IVF:
                                                                    510 mL
                                                                    547 mL
   Blood products:
                                                                    200 mL
                                                                    569 mL
   Total out:
                                                                  3,305 mL
                                                                     25 mL
   Urine:
                                                                    305 mL
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,595 mL
                                                                  1,091 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 91%
   ABG: 7.54/21/119/25/-1
   PaO2 / FiO2: 340
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat:  right nare packed with gauze, bloody
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Bronchial: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, steri strips on left arm surgical wound. no e/o infection
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Sedated, Tone: Not assessed, squeezes hands,
   moves feet, answers questions
   Labs / Radiology
   5 K/uL
   7.7 g/dL
   195 mg/dL
   2.8 mg/dL
   25 mEq/L
   4.1 mEq/L
   36 mg/dL
   99 mEq/L
   144 mEq/L
   21.9 %
   2.9 K/uL
        [image002.jpg]
                             [**2150-2-17**]  04:45 PM
                             [**2150-2-18**]  01:57 AM
                             [**2150-2-18**]  07:27 AM
                             [**2150-2-19**]  03:22 AM
                             [**2150-2-19**]  07:17 AM
                             [**2150-2-20**]  04:48 AM
                             [**2150-2-20**]  09:00 AM
                             [**2150-2-20**]  10:55 AM
                             [**2150-2-20**]  04:50 PM
                             [**2150-2-21**]  03:51 AM
   WBC
   0.3
   0.2
   0.4
   0.4
   1.1
   2.9
   Hct
   23.6
   23.8
   22.1
   20.6
   22.9
   24.1
   21.9
   Plt
   21
   5
   42
   50
   5
   31
   5
   Cr
   3.4
   3.7
   2.9
   3.9
   2.4
   2.8
   TCO2
   19
   Glucose
   175
   139
   155
   180
   176
   195
   Other labs:
   PT / PTT / INR:18.6/30.2/1.7 INR trending up
   Alk Phos / T Bili:143/3.2 Tbili now trending down (from 3.6)
   Differential-Neuts:58.0 %, Band:10.0 %, Lymph:21.0 %, Mono:6.0 %,
   Eos:0.0 %,
   D-dimer:2170 ng/mL,
   Fibrinogen:686 mg/dL,
   Lactic Acid:2.4 mmol/L, LDH:313 IU/L,
   Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:2.4 mg/dL
   Fdp 0-10
   Anc: 740
   DIFFERENTIAL
   Neutrophils 58 %  TOXIC GRANULATION, DOHLES BODIES
   Bands 10* %
   Lymphocytes 21 %
   Metamyelocytes 4* % 0
   Myelocytes 1* % 0
   Nucleated Red Cells 3* %
   RED CELL MORPHOLOGY
   Hypochromia 1+
   Anisocytosis 1+
   Poikilocytosis 1+
   Macrocytes NORMAL
   Microcytes 1+
   Polychromasia NORMAL
   Ovalocytes 1+
   Schistocytes OCCASIONAL
   Teardrop Cells OCCASIONAL
   Bite Cells OCCASIONAL
   Imaging:
   CXR [**2-20**]
   In comparison with study of [**2-18**], there are lower lung volumes.
   Again there is a somewhat ill-defined area of patchy opacification in
   the left
   mid lung zone that could represent a focus of consolidation. Otherwise,
   the
   lungs are essentially clear.
   Microbiology:  no new micro
   Assessment and Plan
   61 year old female with biphenotypic leukemia admitted with persistent
   neutropenia and high grade VRE bacteremia attributed to line infection
   and septic thrombophlebitis, now s/p excision right basilic vein on
   [**2-11**], bacteremia resolved but still intubated [**2-3**] AMS.
   * With new fevers, worsening coaggulopathy, worsening LFTs, and
   worsening gap is concerning for new infection.
   1. Hypoxia: Pt has been weaned down successfully since extubation.
   Still tachypneic. GPCs in sputum gram stain, culture pending.
   - f/u sputum culture
   - continue to wean down O2
   - CXR
   2. AMS: More lethargic today than yesterday, most likely secondary to
   fever exacerbating slowly recovering toxic-metabolic encephalopathy.
   However still following commands and opening eyes.
   - appreciate neuro input on etiology and recs
   - check ABG
   - F/u recent sputum, blood, urine cx drawn this AM for fever
   - Check C diff
   - Start metronidazole for emperic treatment of c diff
   - f/u final EEG read
   - continue to monitor
   - if no seizure activity or normal EEG and still not improving will
   consider LP
   - Continue HD
   3. Conjugated hyperblirubinemia
   Likely [**2-3**] to drug affect, consider voriconazole. INR also trending up
   but this may be [**2-3**] poor nutrition. RUQ ultrasound negative for biliary
   ductal dilatation.
   - stop voriconazole (per ID not clear what this is treating)
   - trend
   - consider repeat imaging if worsening
   # Coagulopathy: INR rising from 1.2 to 1.3, to 1.4, to 1.5 today.
   Concerning for return of sepsis/DIC in light of fevers.
   - Check DIC labs
   - Monitor
   4.  ARF
   Still  anuric: HD today. Renal thinks this will probably be permenant
   but not impossible for her function to return. Likely [**2-3**] ATN from
   hypotension vs gent
   - avoid nephrotoxic agents
   - appreciate renal recommendations
   - holding acyclovir
   - continue HD
   5.  Acid-Base: Gap severely increased today. Gap metabolic acidosis
   from renal failure. Also with primary respiratory alkalosis: maybe
   sepsis or CNS disease, PE on differential, partially compensatory for
   acidosis. Lactate 2.3.
   - Recheckl lytes and VBGs tonight
   6.  VRE bactermemia
   [**2-3**] PICC. No blood cultures have turned positive since the OR
   - Continue broad coverage antibiotics with daptomycin, zosyn
   - f/u peniding cultures
   - appreciate ID recs regarding length of treatment
   7. Epistaxis- improved
   [**2-3**] low platelets
   - afrin
   - transfuse platelets
   8.  Biphenotypic Leukemia/pancytopenia:
   - Platelets today given platelets 5
   - Daily ANC
   - maintain an active type and screen
   - transfuse for platelets<10,000 or any signs of bleeding and HCT<24
   - continue neupogen
   9. H/O positive PPD: cannot continue prior regimen of moxifloxacin
   400mg daily as per prior ID recs for prophylaxis of reactivation as pt
   cannot take PO
   - D/w ID re alternative tx
   NUTRTION
 LIVER FUNCTION ABNORMALITIES
 THROMBOCYTOPENIA, ACUTE
 ACIDOSIS, METABOLIC
 ALKALOSIS, RESPIRATORY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   biphenotypic
   ICU Care
   Nutrition: Hold off on NG tube for 1 day per BMT as no platelets
   Fibersource HN (Full) - [**2150-2-16**] 03:02 AM 55 mL/hour, hold at MN for
   anticipation of extubation tomorrow
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-2-13**] 12:40 PM
   22 Gauge - [**2150-2-14**] 09:32 PM
   Prophylaxis:
   DVT: pneumoboots (given low platelets)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2150-02-21 12:19:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 yo lady with biphenotypic leukemia admitted with persistent
   neutropenia and high grade VRE bacteremia (attributed to line infection
   and septic thrombophlebitis), also with anuric ARF, s/p OR for excision
   right basilic vein with prolonged resp failure from AMS- extubated [**2-19**]
   24 Hour Events:
   Recurr fevers
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Morphine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Voriconazole - [**2150-2-19**] 07:57 AM
   Daptomycin - [**2150-2-19**] 09:00 PM
   Metronidazole - [**2150-2-21**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2150-2-21**] 12:00 AM
   Piperacillin - [**2150-2-21**] 09:06 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-2-21**] 09:06 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-2-21**] 11:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.2
C (97.2
   HR: 93 (93 - 114) bpm
   BP: 157/83(100) {117/65(78) - 164/88(108)} mmHg
   RR: 19 (19 - 38) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101 kg (admission): 105.5 kg
           Total In:
                                                                    710 mL
                                                                  1,353 mL
   PO:
           TF:
   IVF:
                                                                    510 mL
                                                                    699 mL
   Blood products:
                                                                    200 mL
                                                                    654 mL
   Total out:
                                                                  3,305 mL
                                                                     65 mL
   Urine:
                                                                    305 mL
                                                                     65 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,595 mL
                                                                  1,288 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Lymphatic: Cervical WNL
   Lungs: coarse bs, no wheezes
   Chest : right SC CVL
   Cardiovascular: (PMI Normal), (S1: Normal)
   Peripheral Vascular: 1+ edema, RUE surgical incisions clear
   Abdominal: Soft, Non-tender
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed, Minimally arousable
   Labs / Radiology
   7.7 g/dL
   5 K/uL
   195 mg/dL
   2.8 mg/dL
   25 mEq/L
   4.1 mEq/L
   36 mg/dL
   99 mEq/L
   144 mEq/L
   21.9 %
   2.9 K/uL
        [image002.jpg]
                             [**2150-2-17**]  04:45 PM
                             [**2150-2-18**]  01:57 AM
                             [**2150-2-18**]  07:27 AM
                             [**2150-2-19**]  03:22 AM
                             [**2150-2-19**]  07:17 AM
                             [**2150-2-20**]  04:48 AM
                             [**2150-2-20**]  09:00 AM
                             [**2150-2-20**]  10:55 AM
                             [**2150-2-20**]  04:50 PM
                             [**2150-2-21**]  03:51 AM
   WBC
   0.3
   0.2
   0.4
   0.4
   1.1
   2.9
   Hct
   23.6
   23.8
   22.1
   20.6
   22.9
   24.1
   21.9
   Plt
   21
   5
   42
   50
   5
   31
   5
   Cr
   3.4
   3.7
   2.9
   3.9
   2.4
   2.8
   TCO2
   19
   Glucose
   175
   139
   155
   180
   176
   195
   Other labs: PT / PTT / INR:18.6/30.2/1.7, CK / CKMB /
   Troponin-T:21/2/0.04, ALT / AST:[**12-18**], Alk Phos / T Bili:143/3.2,
   Differential-Neuts:58.0 %, Band:10.0 %, Lymph:21.0 %, Mono:6.0 %,
   Eos:0.0 %, D-dimer:2170 ng/mL, Fibrinogen:686 mg/dL, Lactic Acid:2.4
   mmol/L, LDH:313 IU/L, Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:2.4 mg/dL
   EEG: diffuse slowing, bitemporal artifact likely due to motion
   Assessment and Plan
 LIVER FUNCTION ABNORMALITIES
 THROMBOCYTOPENIA, ACUTE
 ACIDOSIS, METABOLIC
 ALKALOSIS, RESPIRATORY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   Biphenotypic
   61 yo lady with biphenotypic leukemia with VRE bacteremia (attributed
   to line infection and septic thrombophlebitis), excision right basilic
   vein
subsequent course notable for AMS, prolonged resp failure in the
   setting of AMS, ARF
   1. Altered mental status: negative MRI and EEG
Suspect toxic metabolic
   given absence of an alternative etiology by MRI and EEG. Slow
   improvement, though MS [**First Name (Titles) 1084**] [**Last Name (Titles) 13487**]. Continue to monitor neuro
   status
   2. Neutropenic fever: Remain concerned for nosocomial infection, though
   source not identified by culture data to date. On daptomycin for high
   grade VRE bacteremia, zosyn empirically. Flagyl added pending Cdiff
   results
   3. Biphenotypic leukemia: marrow showing signs of recovery, continue to
   check counts daily with transfusions as needed
   4. Acute renal failure: intermittent HD
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-2-13**] 12:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Pt is critically ill

2150-02-22 07:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - removed foley for patient comfort
   - t bili trending down after stopping voriconazole
   - ID: fever likely engraftment
   - onc: ok to hold on tube feeds
   - neuro, renal: no new recs
   Allergies:
   Morphine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Voriconazole - [**2150-2-19**] 07:57 AM
   Piperacillin - [**2150-2-21**] 09:06 AM
   Daptomycin - [**2150-2-21**] 08:17 PM
   Piperacillin/Tazobactam (Zosyn) - [**2150-2-21**] 11:02 PM
   Metronidazole - [**2150-2-21**] 11:33 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-2-21**] 08:16 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-2-22**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.9
C (96.7
   HR: 111 (93 - 113) bpm
   BP: 161/89(104) {140/71(88) - 179/96(109)} mmHg
   RR: 24 (19 - 35) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 101 kg (admission): 105.5 kg
           Total In:
                                                                  1,934 mL
                                                                    223 mL
   PO:
           TF:
   IVF:
                                                                  1,280 mL
                                                                     76 mL
   Blood products:
                                                                    654 mL
                                                                    147 mL
   Total out:
                                                                     75 mL
                                                                      0 mL
   Urine:
                                                                     75 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,859 mL
                                                                    223 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   20 K/uL
   8.9 g/dL
   187 mg/dL
   3.8 mg/dL
   25 mEq/L
   3.9 mEq/L
   56 mg/dL
   100 mEq/L
   143 mEq/L
   24.2 %
   7.0 K/uL
        [image002.jpg]
                             [**2150-2-18**]  07:27 AM
                             [**2150-2-19**]  03:22 AM
                             [**2150-2-19**]  07:17 AM
                             [**2150-2-20**]  04:48 AM
                             [**2150-2-20**]  09:00 AM
                             [**2150-2-20**]  10:55 AM
                             [**2150-2-20**]  04:50 PM
                             [**2150-2-21**]  03:51 AM
                             [**2150-2-21**]  11:35 AM
                             [**2150-2-22**]  04:35 AM
   WBC
   0.4
   0.4
   1.1
   2.9
   7.0
   Hct
   22.1
   20.6
   22.9
   24.1
   21.9
   24.2
   24.2
   Plt
   42
   50
   5
   31
   5
   20
   Cr
   2.9
   3.9
   2.4
   2.8
   3.8
   TCO2
   19
   Glucose
   155
   180
   176
   195
   187
   Other labs: PT / PTT / INR:18.6/30.2/1.7, CK / CKMB /
   Troponin-T:21/2/0.04, ALT / AST:[**11-25**], Alk Phos / T Bili:150/4.0,
   Differential-Neuts:73.0 %, Band:3.0 %, Lymph:2.0 %, Mono:18.0 %,
   Eos:0.0 %, D-dimer:2170 ng/mL, Fibrinogen:686 mg/dL, Lactic Acid:2.5
   mmol/L, LDH:455 IU/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Imaging: US Abdomen:
   1. Diffusely echogenic liver without focal lesions, compatible with
   diffuse
   fatty infiltrates. Other forms of liver disease or advanced liver
   disease
   such as fibrosis/cirrhosis cannot be excluded.
   2. No hydroureteronephrosis in either kidney.
   Assessment and Plan
 LIVER FUNCTION ABNORMALITIES
 THROMBOCYTOPENIA, ACUTE
 ACIDOSIS, METABOLIC
 ALKALOSIS, RESPIRATORY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   Biphenotypic
   61 year old female with biphenotypic leukemia admitted with persistent
   neutropenia and high grade VRE bacteremia attributed to line infection
   and septic thrombophlebitis, now s/p excision right basilic vein on
   [**2-11**], extubation delayed post-op for altered mental status, finally
   extubated on [**2-18**], but still with AMS.
   #. ? opacity on CXR
   Was initial concern for aspiration post-extubation. Then with
ill-defined opacity
 on CXR. Oxygen sats good and broadly covered with
   abx already.
   - cont to monitor
   - f/u read of CXR today
   - f/u sputum culture
   # Fevers, low grade
   [**Month (only) 51**] be [**2-3**] immune reconstitution.
   - monitor for evidence of infection
   # AMS:
   Appears more lethargic than encephalopathic. following commands and
   opening eyes.
   - monitor  ABG
   - f/u cultures
   - Check C diff, [**2-4**] negative so far
   - cont flagyl until cdif neg x 3
   - f/u final EEG read, neuro recs
   - continue to monitor
   - Continue HD
   #. Conjugated hyperblirubinemia
   Trending down since stopping voriconazole
   - continue to trend
   - consider repeat imaging if worsening
   # Coagulopathy: INR rising from 1.2 to 1.3, to 1.4, to 1.5 today. No
   evidence of DIC. Likely nutritional.
   - Monitor
   #.  ARF
   Still  anuric: HD today. Renal thinks this will probably be permenant
   but not impossible for her function to return. Likely [**2-3**] ATN from
   hypotension vs gent
   - avoid nephrotoxic agents
   - appreciate renal recommendations
   - holding acyclovir
   - continue HD
   #.  Acid-Base: Gap metabolic acidosis from renal failure, lactate. Also
   with primary respiratory alkalosis: maybe sepsis or CNS disease, PE on
   differential, partially compensatory for acidosis.
   - monitor lytes and VBGs
   #.  VRE bactermemia
   [**2-3**] PICC. No blood cultures have turned positive since the OR
   - Continue broad coverage antibiotics with daptomycin, zosyn
   - f/u peniding cultures
   - appreciate ID recs regarding length of treatment
   #. Epistaxis- improved
   [**2-3**] low platelets
   - afrin
   - transfuse platelets
   #.  Biphenotypic Leukemia/pancytopenia:
   - marrow on the rise
   - Platelets today given platelets 5
   - Daily ANC
   - maintain an active type and screen
   - transfuse for platelets<10,000 or any signs of bleeding and HCT<24
   - continue neupogen
   #. H/O positive PPD: cannot continue prior regimen of moxifloxacin
   400mg daily as per prior ID recs for prophylaxis of reactivation as pt
   cannot take PO
   - D/w ID re alternative tx
   1. Altered mental status: negative MRI and EEG
Suspect toxic metabolic
   given absence of an alternative etiology by MRI and EEG. Slow
   improvement, though MS [**First Name (Titles) 1084**] [**Last Name (Titles) 13487**]. Continue to monitor neuro
   status
   2. Neutropenic fever: Remain concerned for nosocomial infection, though
   source not identified by culture data to date. On daptomycin for high
   grade VRE bacteremia, zosyn empirically. Flagyl added pending Cdiff
   results
   3. Biphenotypic leukemia: marrow showing signs of recovery, continue to
   check counts daily with transfusions as needed
   4. Acute renal failure: intermittent HD
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-2-13**] 12:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2150-02-22 12:29:00 Physician Attending Progress Note
Chief Complaint: AMS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 yo f with biphenotypic leukemia with VRE bacteremia s/p excision
   basilic vein, AMS and acute resp failure extubated [**2-19**]
   24 Hour Events:
                       History obtained from [**Hospital 15**] Medical records
   Allergies:
   Morphine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin - [**2150-2-21**] 09:06 AM
   Daptomycin - [**2150-2-21**] 08:17 PM
   Metronidazole - [**2150-2-21**] 11:33 PM
   Piperacillin/Tazobactam (Zosyn) - [**2150-2-22**] 08:09 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-2-22**] 08:09 AM
   Other medications:
   miconazole, chlorhexidine, daptomycin, gCSF, moxifloxacin, Mg and
   calcium
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-2-22**] 12:07 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.6
C (96
   HR: 107 (95 - 113) bpm
   BP: 160/90(106) {140/71(88) - 179/96(109)} mmHg
   RR: 30 (13 - 35) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 101 kg (admission): 105.5 kg
           Total In:
                                                                  1,934 mL
                                                                    505 mL
   PO:
           TF:
   IVF:
                                                                  1,280 mL
                                                                    230 mL
   Blood products:
                                                                    654 mL
                                                                    275 mL
   Total out:
                                                                     75 mL
                                                                      0 mL
   Urine:
                                                                     75 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,859 mL
                                                                    505 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical, decrease
   BS at bases
   Skin:  normal turgor, no rashes
   Neurologic: Drowsy, arousable, intermittently follows commands
   Labs / Radiology
   8.9 g/dL
   35 K/uL
   187 mg/dL
   3.8 mg/dL
   25 mEq/L
   3.9 mEq/L
   56 mg/dL
   100 mEq/L
   143 mEq/L
   24.2 %
   7.0 K/uL
         [image002.jpg]
                             [**2150-2-19**]  03:22 AM
                             [**2150-2-19**]  07:17 AM
                             [**2150-2-20**]  04:48 AM
                             [**2150-2-20**]  09:00 AM
                             [**2150-2-20**]  10:55 AM
                             [**2150-2-20**]  04:50 PM
                             [**2150-2-21**]  03:51 AM
                             [**2150-2-21**]  11:35 AM
                             [**2150-2-22**]  04:35 AM
                             [**2150-2-22**]  08:21 AM
   WBC
   0.4
   0.4
   1.1
   2.9
   7.0
   Hct
   22.1
   20.6
   22.9
   24.1
   21.9
   24.2
   24.2
   Plt
   50
   5
   31
   5
   20
   35
   Cr
   2.9
   3.9
   2.4
   2.8
   3.8
   TCO2
   19
   Glucose
   155
   180
   176
   195
   187
   Other labs: PT / PTT / INR:18.6/30.2/1.7, CK / CKMB /
   Troponin-T:21/2/0.04, ALT / AST:[**11-25**], Alk Phos / T Bili:150/4.0,
   Differential-Neuts:73.0 %, Band:3.0 %, Lymph:2.0 %, Mono:18.0 %,
   Eos:0.0 %, D-dimer:2170 ng/mL, Fibrinogen:686 mg/dL, Lactic Acid:2.5
   mmol/L, LDH:455 IU/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Microbiology: [**2-11**] enterococcal blood culture- since NGTD
   Assessment and Plan
 LIVER FUNCTION ABNORMALITIES
 THROMBOCYTOPENIA, ACUTE
 ACIDOSIS, METABOLIC
 ALKALOSIS, RESPIRATORY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   biphenotypic
   61 yo female with biphenotypic leukemia, high grade VRE bacteremia
   For AMS: still waxing and [**Doctor Last Name 533**] but slow improvement overall
   For Acute renal failure: remains anuric, getting HD
   For VRE bacteremia, remains on Dapto 8mg/kg IV q48h . Continue  Zosyn
   2.25gm IV q8h for empiric fevers, clarify length of course with ID. For
   biphenotypic leukemia, no longer neutropenic and counts beginning to
   recover .
   For malnutrition, pt still unable to take po due to poor MS. [**Name13 (STitle) 171**] to
   insert Dobhoff for tube feeds.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-2-13**] 12:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: Consider transfer to floor

2150-02-23 07:17:00 Physician Resident Progress Note
Chief Complaint: Reason for MICU transfer: Post-operative hypotension,
   remains intubated
   .
   Chief Complaint: VRE bacteremia
   24 Hour Events:
   [**2-22**]
   - Placed dobhoff
   - T bili elevated again, held off on repeating imaging w/ US. D/c'd
   zosyn, per heme-onc, could be contributing to LFT abnormalities.
   Switched to cefepime.
   - D/c'd neupogen as patient nolonger neutropenic
   - MS continues to be somnolent
   History obtained from Patient
   Allergies:
   History obtained from PatientMorphine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin - [**2150-2-21**] 09:06 AM
   Daptomycin - [**2150-2-21**] 08:17 PM
   Piperacillin/Tazobactam (Zosyn) - [**2150-2-22**] 04:00 PM
   Cefipime - [**2150-2-22**] 05:31 PM
   Metronidazole - [**2150-2-23**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-2-22**] 08:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Barely opens eyes to sternal rub.
   Flowsheet Data as of  [**2150-2-23**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.3
C (97.4
   HR: 89 (88 - 114) bpm
   BP: 143/75(89) {124/67(79) - 183/108(123)} mmHg
   RR: 29 (0 - 36) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101 kg (admission): 105.5 kg
             Total In:
                                                                    965 mL
                                                                    262 mL
   PO:
             TF:
   IVF:
                                                                    600 mL
                                                                    172 mL
   Blood products:
                                                                    275 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    965 mL
                                                                    262 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   GEN: Somnolent, looks comfortable, somewhat tachypneic
   CV: RRR, no RMG
   PULM: CTAB anteriorly
   ABD: Soft, NTND +BS
   EXT: 1+ pitting edema x 4 extremities
   NEURO: Not responding to voice, barely opens eyes to sternal rub, moves
   LLE on command but no others, PERRLA but sluggish
   Labs / Radiology
   7 K/uL
   8.4 g/dL
   185 mg/dL
   4.5 mg/dL
   25 mEq/L
   4.5 mEq/L
   79 mg/dL
   103 mEq/L
   146 mEq/L
   22.8 %
   13.2 K/uL
        [image002.jpg]
                             [**2150-2-19**]  07:17 AM
                             [**2150-2-20**]  04:48 AM
                             [**2150-2-20**]  09:00 AM
                             [**2150-2-20**]  10:55 AM
                             [**2150-2-20**]  04:50 PM
                             [**2150-2-21**]  03:51 AM
                             [**2150-2-21**]  11:35 AM
                             [**2150-2-22**]  04:35 AM
                             [**2150-2-22**]  08:21 AM
                             [**2150-2-23**]  04:44 AM
   WBC
   0.4
   1.1
   2.9
   7.0
   13.2
   Hct
   20.6
   22.9
   24.1
   21.9
   24.2
   24.2
   22.8
   Plt
   50
   5
   31
   5
   20
   35
   7
   Cr
   3.9
   2.4
   2.8
   3.8
   4.5
   TCO2
   19
   Glucose
   180
   176
   195
   187
   185
   Other labs: PT / PTT / INR:20.9/30.8/1.9, CK / CKMB /
   Troponin-T:21/2/0.04, ALT / AST:[**12-30**], Alk Phos / T Bili:175/5.2,
   Differential-Neuts:80.0 %, Band:5.0 %, Lymph:2.0 %, Mono:5.0 %, Eos:0.0
   %, D-dimer:2170 ng/mL, Fibrinogen:686 mg/dL, Lactic Acid:2.5 mmol/L,
   LDH:661 IU/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:3.5 mg/dL
   Imaging: CXR AP [**2150-2-23**]
   A dobhoff tube is new and ends just beyond the GE-junction in the
   stomach.
   This tube could be advanced by 5-10cm. Otherwise minimal change.
   Microbiology: [**2150-2-20**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   [**2150-2-20**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2150-2-19**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2150-2-18**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL; FUNGAL
   CULTURE-PRELIMINARY INPATIENT
   [**2150-2-17**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   Assessment and Plan
 LIVER FUNCTION ABNORMALITIES
 THROMBOCYTOPENIA, ACUTE
 ACIDOSIS, METABOLIC
 ALKALOSIS, RESPIRATORY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   Biphenotypic
   61 year old female with biphenotypic leukemia admitted with persistent
   neutropenia and high grade VRE bacteremia attributed to line infection
   and septic thrombophlebitis, now s/p excision right basilic vein on
   [**2-11**], extubation delayed post-op for altered mental status, finally
   extubated on [**2-18**], but still with AMS.
   # AMS: Worse today. Most likely toxic-metabolic, however unusually long
   course without significant steps forward toward improvement.  EEG c/w
   mild encephalopathy, expect a waxing and [**Doctor Last Name 533**] but overall slow
   trajectory of recovery. Nonetheless, given lack of improvement d/w BMT
   re LP given normalization of ANC who agrees with this plan to r/o
   infectious meningitis or carcinomatous meningitits.
   - Repeat head CT given persistently low plts and coagulopathy
   - LP today after platelets and vit K, will send for cytology and flow
   cytometry
   - Give vitamin K for coaggulopathy and platelets for thrombocytopenia
   - F/u cultures, no growth since [**2-11**]
   - DC flagyl given cdif neg x 3
   - neuro recs, appreciate their input
   - continue to trend lfts
   - continue to monitor
   - Continue HD
   - DC Zofran as may be contributing
   # Coagulopathy: Still rising INR. Likely nutrition def vs synthetic
   dysfct. In setting of persistent and severe thrombocytopenia still
   somewhat concerning for DIC
   - Recheck DIC labs today
   - Would recommend repeat smear
   - Place dobhoff today; continue tube feeds
   # Hypernatremia: Likely secondary to free-water defecit from tube
   feeds.
   - Increase frequency of free water flushes from 30mL Q8H to 100mL Q8H
   # Fevers, low grade: Resolved for now. Has been afebrile overnight.
   Maybe [**2-3**] immune reconstitution.
   - monitor for evidence of infection
   - Cont dapto/cefepime
   #. Conjugated hyperblirubinemia: T bili rising again despite stopping
   Voriconazole and zosyn.  US c/w fatty infiltrates of liver.  Suspect
   coagulopathy is [**2-3**] nutrition def, but continue to consider synthetic
   dysfct.
   - Continue to trend
   - Agree with dc
ing zosyn
   - Recommend repeating RUQ US w/ dopplers
   #.  ARF: Anuric. Probable ESRD. Likely [**2-3**] ATN from hypotension vs gent
   - avoid nephrotoxic agents
   - appreciate renal recommendations
   - holding acyclovir
   - continue HD
   #.  VRE bactermemia: [**2-3**] PICC. No blood cultures have turned positive
   since the OR
   - Continue broad coverage antibiotics with daptomycin, cefepime
   - f/u peniding cultures
   - appreciate ID recs regarding length of treatment
   #. Epistaxis- improved. [**2-3**] low platelets
   - afrin
   - transfuse platelets
   #.  Biphenotypic Leukemia/pancytopenia:
   - marrow on the rise
   - Platelets today given platelets 7
   - maintain an active type and screen
   - transfuse for platelets<10,000 or any signs of bleeding and HCT<24
   - Agree with dc
ing neupogen
   #. H/O positive PPD:
   - Continue Moxifloxacin 400mg PO/NG Daily
   ICU Care
   Nutrition: Fibersource HN tube feeds
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-2-13**] 12:40 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU pending resolution of AMS

2150-02-23 11:52:00 Physician Attending Progress Note
Chief Complaint: VRE sepsis, respiratory failure, altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 yo f with biphenotypic leukemia with VRE bacteremia s/p excision
   basilic vein, AMS and acute resp failure extubated [**2-19**]
   24 Hour Events:
   Zosyn stopped, switched to cefipime
   Neupogen discontinued
   Dobloff placed
   Decreased responsiveness this am, seemed temporally associated with
   getting zofran
   Allergies:
   Morphine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin - [**2150-2-21**] 09:06 AM
   Daptomycin - [**2150-2-21**] 08:17 PM
   Piperacillin/Tazobactam (Zosyn) - [**2150-2-22**] 04:00 PM
   Cefipime - [**2150-2-22**] 05:31 PM
   Metronidazole - [**2150-2-23**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-2-23**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2150-2-23**] 11:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.1
C (96.9
   HR: 82 (81 - 114) bpm
   BP: 145/83(97) {124/67(79) - 183/108(123)} mmHg
   RR: 27 (0 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101 kg (admission): 105.5 kg
           Total In:
                                                                    965 mL
                                                                    733 mL
   PO:
           TF:
           77 mL
   IVF:
                                                                    600 mL
                                                                    224 mL
   Blood products:
                                                                    275 mL
                                                                    252 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    965 mL
                                                                    733 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed, is able to wiggle toes to command, open eyes to command
   Labs / Radiology
   8.4 g/dL
   58 K/uL
   185 mg/dL
   4.5 mg/dL
   25 mEq/L
   4.5 mEq/L
   79 mg/dL
   103 mEq/L
   146 mEq/L
   22.8 %
   13.2 K/uL
        [image002.jpg]
                             [**2150-2-20**]  04:48 AM
                             [**2150-2-20**]  09:00 AM
                             [**2150-2-20**]  10:55 AM
                             [**2150-2-20**]  04:50 PM
                             [**2150-2-21**]  03:51 AM
                             [**2150-2-21**]  11:35 AM
                             [**2150-2-22**]  04:35 AM
                             [**2150-2-22**]  08:21 AM
                             [**2150-2-23**]  04:44 AM
                             [**2150-2-23**]  08:43 AM
   WBC
   1.1
   2.9
   7.0
   13.2
   Hct
   22.9
   24.1
   21.9
   24.2
   24.2
   22.8
   Plt
   5
   31
   5
   20
   35
   7
   58
   Cr
   3.9
   2.4
   2.8
   3.8
   4.5
   TCO2
   19
   Glucose
   180
   176
   195
   187
   185
   Other labs: PT / PTT / INR:20.9/30.8/1.9, CK / CKMB /
   Troponin-T:21/2/0.04, ALT / AST:[**12-30**], Alk Phos / T Bili:175/5.2,
   Differential-Neuts:80.0 %, Band:5.0 %, Lymph:2.0 %, Mono:5.0 %, Eos:0.0
   %, D-dimer:2170 ng/mL, Fibrinogen:476 mg/dL, Lactic Acid:2.5 mmol/L,
   LDH:661 IU/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 LIVER FUNCTION ABNORMALITIES:  Bili continues to rise. Zosyn stopped
   as could be contributing.  Repeat RUQ US wtih dopplers.
 THROMBOCYTOPENIA, ACUTE:  To receive platelet transfusion for
   plt-7K.
 COAGULOPATHY:  INR continues to increase. Likely secondary to
   nutritional deficit and broad spectrum antibiotics.  Repeat DIC labs
   thus far not suggesting DIC.  Will give vitamin K.  Follow labs.
 VRE BACTEREMIA/SEPSIS:  Blood cultures from [**2-20**] no growth to
   date.
 C. DIFF:  Has been on flagyl, C. diff negative so will discontinue.
 HYPERNATREMIA:  Mild at this point.  Follow labs post dialysis.
   Replete free water as needed.
 ALTERED MENTAL STATUS (NOT DELIRIUM):  Less responsive today albeit
   does open eyes to command and able to follow simple commands (wiggle
   toes). Has been attributed to toxic/metabolic, seems likely. BMT thinks
   carcinomatous meningitis unlikely given no evidence of leukemia in bone
   marrow.   [**Month (only) 51**] be worse today since she has not been dialyzed since
   Friday.  Has not received sedating meds except zofran yesterday.  If
   not better post dialysis will need to discuss possible LP with BMT
   service.  Given altered mental status will continue to monitor in the
   ICU.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): Secondary to ATN in
   setting of hypotension and gentamicin.  Being dialyzed this morning.
   To be completed around 12:30.
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM):  biphenotypic
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2150-2-23**] 07:00 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-2-13**] 12:40 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2150-02-24 07:54:00 Physician Resident Progress Note
Chief Complaint: altered mental status
   24 Hour Events:
 BLOOD CULTURED - At [**2150-2-23**] 12:15 PM
   taken from right sc dialysis catheter by dialysis rn during treatment
 BLOOD CULTURED - At [**2150-2-23**] 01:30 PM
   taken from vip port of r sc dialysis catheter
 LUMBAR PUNCTURE - At [**2150-2-23**] 06:08 PM
   - BMT recs: LP, stop cefepime
   - Neuro recs: go ahead with LP
   - Renal recs: HD with goal -4L
   - ID recs: stopped flagyl and cefepime, continue dapto. RUQ US ordered
   for [**2-24**].
   - Given plts and vitk before successful LP. Zero red/white cells,
   glucose 103, protein 36.
   - Head CT - no hem, no mass effect, no acute intracranial
   abnormalities.
   - HCT dropped to 20, transfused 1 unit PRBCs
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   History obtained from [**Hospital 15**] Medical recordsMorphine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin - [**2150-2-21**] 09:06 AM
   Piperacillin/Tazobactam (Zosyn) - [**2150-2-22**] 04:00 PM
   Cefipime - [**2150-2-22**] 05:31 PM
   Metronidazole - [**2150-2-23**] 12:00 AM
   Daptomycin - [**2150-2-23**] 07:34 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-2-23**] 07:34 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-2-24**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.8
   HR: 87 (80 - 93) bpm
   BP: 140/74(90) {102/58(71) - 160/119(126)} mmHg
   RR: 20 (9 - 39) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101 kg (admission): 105.5 kg
           Total In:
                                                                  1,329 mL
                                                                    445 mL
   PO:
           TF:
                                                                    162 mL
                                                                     56 mL
   IVF:
                                                                    363 mL
                                                                     39 mL
   Blood products:
                                                                    454 mL
                                                                    350 mL
   Total out:
                                                                  2,600 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,271 mL
                                                                    445 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   GEN: Head twitching, opens eyes to name but not sustained, looks
   comfortable
   CV: RRR, no RMG
   PULM: CTAB anteriorly
   ABD: Soft, +BS, TTP diffusely, maybe R>L
   EXT: 1+ pitting edema x 4 extremities
   Labs / Radiology
   10 K/uL
   7.1 g/dL
   203 mg/dL
   3.3 mg/dL
   26 mEq/L
   4.0 mEq/L
   63 mg/dL
   100 mEq/L
   142 mEq/L
   20.4 %
   15.9 K/uL
        [image002.jpg]
                             [**2150-2-20**]  09:00 AM
                             [**2150-2-20**]  10:55 AM
                             [**2150-2-20**]  04:50 PM
                             [**2150-2-21**]  03:51 AM
                             [**2150-2-21**]  11:35 AM
                             [**2150-2-22**]  04:35 AM
                             [**2150-2-22**]  08:21 AM
                             [**2150-2-23**]  04:44 AM
                             [**2150-2-23**]  08:43 AM
                             [**2150-2-24**]  03:18 AM
   WBC
   2.9
   7.0
   13.2
   15.9
   Hct
   24.1
   21.9
   24.2
   24.2
   22.8
   20.4
   Plt
   31
   5
   20
   35
   7
   58
   10
   Cr
   2.4
   2.8
   3.8
   4.5
   3.3
   TCO2
   19
   Glucose
   176
   195
   187
   185
   203
   Other labs: PT / PTT / INR:20.9/30.8/1.9, Differential-Neuts:88.0 %,
   Band:2.0 %, Lymph:0.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:2.5 mmol/L,
   LDH:785 IU/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   ENZYMES & BILIRUBIN
                                     ALT
                                     AST
                                   LD(LDH)
                                   CK(CPK)
                                   AlkPhos
                                   Amylase
                                   TotBili
                                   DirBili
                                   IndBili
   [1][**2150-2-24**] 03:18AM
                                     13
                                     34
                                    785*
   202*
   4.6*
   [2][**2150-2-23**] 04:44AM
                                     12
                                     29
                                    661*
   175*
   5.2*
                                    3.6*
                                     1.6
   [3][**2150-2-22**] 04:35AM
                                     11
                                     24
                                    455*
   150*
   4.0*
                                    2.8*
                                     1.2
   [4][**2150-2-21**] 03:51AM
                                     12
                                     17
                                    313*
                                     21*
                                    143*
   3.2*
   [5][image003.gif]   RED CELL MORPHOLOGY
                                   Hypochr
                                   Anisocy
                                   Poiklo
                                   Macrocy
                                   Microcy
                                   Polychr
                                   Spheroc
                                   Ovalocy
                                   Schisto
   [6][**2150-2-24**] 03:18AM
                                    1+[1]
                                     1+
                                     1+
                                   NORMAL
                                     1+
                                 OCCASIONAL
                                     1+
                                     1+
                                     1+
   ANALYSIS
                                     WBC
                                     RBC
                                    Polys
                                   Lymphs
                                    Monos
   [7][**2150-2-23**] 05:30PM
                                      0
                                      0
                                      0
                                      0
                                      0
   FLOW CYTOMETRY
                                     IPT
   [8][**2150-2-23**] 05:30PM
                                     PND
   Chemistry
   CHEMISTRY
                                   TotProt
                                   Glucose
                                   LD(LDH)
   [9][**2150-2-23**] 05:30PM
                                     36
                                     103
                                     26
   Miscellaneous
   CYTOMEGALOVIRUS - PCR
   HERPES SIMPLEX VIRUS PCR
   VARICELLA DNA (PCR)
   [10][**2150-2-23**] 05:30PM
   PND
   [11][**2150-2-23**] 05:30PM
   PND
   [12][**2150-2-23**] 05:30PM
   PND
   Imaging:
   CT head neagtive
   Microbiology:
   No new culture growth
   Assessment and Plan
   61 year old female with biphenotypic leukemia admitted with persistent
   neutropenia and high grade VRE bacteremia attributed to line infection
   and septic thrombophlebitis, now s/p excision right basilic vein on
   [**2-11**], extubation delayed post-op for altered mental status, finally
   extubated on [**2-18**], but still with AMS.
   # AMS
   Waxing and [**Doctor Last Name 533**]. Concern for carcinomatous meningitis.
   - F/u cytology from CSF
   - F/u cultures, no growth since [**2-11**]
   - neuro recs, appreciate their input
   - continue to trend lfts
   - continue to monitor
   - Continue HD
   - trial of lactulose given LFTs, but mental status issue predated LFTs
   # Leukocytosis
   [**Month (only) 51**] be [**2-3**] neupogen, but also concerning for infection. Also on
   differential is disease recurrence. Has been afebrile. No new culture
   growth.
   - cont surveillance cultures
   - f/u RUQ US
   - monitor
   - if persists, would ask BMT about looking at smear
   #. Conjugated hyperblirubinemia:
   T bili elevated despite stopping Voriconazole and zosyn and with RUQ
   TTP. Also with rising alk phos. US c/w fatty infiltrates of liver.
    - Continue to trend
   - f/u repeat  RUQ US w/ dopplers
   # Coagulopathy:
   Still rising INR. Likely nutrition def vs synthetic dysfct. DIC labs
   and RBC morphology may be unhelpful in setting of recurrent
   transfusions. Got vitamin K.
   - monitr for improvement with vitamin K
   - cont tube feeds
   - f/u liver w/u
   # Anemia/Pancytopenia
   Has been transfusion dependent.
   - continue transfuse for Hct<24, plt< 10 or signs of bleeding
   # Hypernatremia:
   Improved with increased free water flushes
   - continue 100mL Q8H flushes
   # Fevers, low grade: Resolved for now. Has been afebrile overnight.
   Maybe [**2-3**] immune reconstitution.
   - monitor for evidence of infection
   - Cont dapto/cefepime
   #.  ARF:
   Anuric. Probable ESRD. Likely [**2-3**] ATN from hypotension vs gent
   - avoid nephrotoxic agents
   - appreciate renal recommendations regarding need for more permanent
   access
   - continue HD
   #.  VRE bactermemia: [**2-3**] PICC.
   - surveillance cultures have been negative
   - Continue daptomycin
   - appreciate ID recs regarding length of treatment
   #.  Biphenotypic Leukemia/pancytopenia:
   - marrow on the rise
   - Platelets today given platelets 7
   - maintain an active type and screen
   - transfuse for platelets<10,000 or any signs of bleeding and HCT<24
   - Agree with dc
ing neupogen
   #. H/O positive PPD:
   - Continue Moxifloxacin 400mg PO/NG Daily
 LIVER FUNCTION ABNORMALITIES
 THROMBOCYTOPENIA, ACUTE
 ACIDOSIS, METABOLIC
 ALKALOSIS, RESPIRATORY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   biphenotypic
   ICU Care
   Nutrition: Fibersource HN tube feeds
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-2-13**] 12:40 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU pending resolution of AMS
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_206%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_207%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_208%22);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_209%22);
   5. javascript:command('LHBF','expand')
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_60%22);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22);
  11. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22);
  12. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22);

2150-02-24 11:54:00 Physician Attending Progress Note
Chief Complaint: altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2150-2-23**] 12:15 PM
   taken from right sc dialysis catheter by dialysis rn during treatment
 BLOOD CULTURED - At [**2150-2-23**] 01:30 PM
   taken from vip port of r sc dialysis catheter
 LUMBAR PUNCTURE - At [**2150-2-23**] 06:08 PM
   Transfused 1 u pRBCs for hct 20
   Head shaking/twitching this morning albeit resonds to name by opening
   eyes
   Allergies:
   Morphine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2150-2-22**] 04:00 PM
   Cefipime - [**2150-2-22**] 05:31 PM
   Metronidazole - [**2150-2-23**] 12:00 AM
   Daptomycin - [**2150-2-23**] 07:34 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-2-23**] 07:34 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-2-24**] 11:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.8
   HR: 82 (78 - 93) bpm
   BP: 132/74(87) {102/58(71) - 160/119(126)} mmHg
   RR: 17 (5 - 39) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101 kg (admission): 105.5 kg
           Total In:
                                                                  1,329 mL
                                                                    494 mL
   PO:
           TF:
                                                                    162 mL
                                                                     56 mL
   IVF:
                                                                    363 mL
                                                                     58 mL
   Blood products:
                                                                    454 mL
                                                                    350 mL
   Total out:
                                                                  2,600 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,271 mL
                                                                    494 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.1 g/dL
   10 K/uL
   203 mg/dL
   3.3 mg/dL
   26 mEq/L
   4.0 mEq/L
   63 mg/dL
   100 mEq/L
   142 mEq/L
   20.4 %
   15.9 K/uL
        [image002.jpg]
                             [**2150-2-20**]  09:00 AM
                             [**2150-2-20**]  10:55 AM
                             [**2150-2-20**]  04:50 PM
                             [**2150-2-21**]  03:51 AM
                             [**2150-2-21**]  11:35 AM
                             [**2150-2-22**]  04:35 AM
                             [**2150-2-22**]  08:21 AM
                             [**2150-2-23**]  04:44 AM
                             [**2150-2-23**]  08:43 AM
                             [**2150-2-24**]  03:18 AM
   WBC
   2.9
   7.0
   13.2
   15.9
   Hct
   24.1
   21.9
   24.2
   24.2
   22.8
   20.4
   Plt
   31
   5
   20
   35
   7
   58
   10
   Cr
   2.4
   2.8
   3.8
   4.5
   3.3
   TCO2
   19
   Glucose
   176
   195
   187
   185
   203
   Other labs: PT / PTT / INR:20.9/30.8/1.9, CK / CKMB /
   Troponin-T:21/2/0.04, ALT / AST:13/34, Alk Phos / T Bili:202/4.6,
   Differential-Neuts:88.0 %, Band:2.0 %, Lymph:0.0 %, Mono:6.0 %, Eos:0.0
   %, D-dimer:1824 ng/mL, Fibrinogen:476 mg/dL, Lactic Acid:2.5 mmol/L,
   LDH:785 IU/L, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Microbiology: crypto ag negative in CSF
   Assessment and Plan
 LIVER FUNCTION ABNORMALITIES:  Bilirubin down today.  LDH
   increasing.  RUQ ultrasound to be done today.
 THROMBOCYTOPENIA, ACUTE:  Persistently thrombocytopenic. Transfuse
   for 10K this morning.
 COAGULOPATHY:  INR similarly elevated today. Continue Vit K repletion
   and follow labs.
 ANEMIA:  No evidence of active bleeding. Guaiac all stools, PPI,
   serial CBC.
 ALTERED MENTAL STATUS (NOT DELIRIUM):  LP results thus far
   unremarkable, no suggestion of infection.  Viral studies pending.
   Cytology pending.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):  On dialysis.
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   biphenotypic
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-2-13**] 12:40 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2150-02-25 07:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2150-2-24**] 12:08 PM
   drawn from vip port
 CALLED OUT
   - RUQ unchanged from prior
   - called out to BMT
   - cytology on CSF cancelled because no cells
   - ID agreed that moxifloxacin may be causing the stupor, d/c'd it
   - plan to transfuse her RBCs with HD
   Allergies:
   Morphine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2150-2-22**] 04:00 PM
   Cefipime - [**2150-2-22**] 05:31 PM
   Metronidazole - [**2150-2-23**] 12:00 AM
   Daptomycin - [**2150-2-23**] 07:34 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-2-24**] 07:51 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-2-25**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.8
C (96.5
   HR: 80 (71 - 87) bpm
   BP: 138/80(93) {122/67(82) - 157/109(114)} mmHg
   RR: 17 (5 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.8 kg (admission): 105.5 kg
           Total In:
                                                                  1,139 mL
                                                                    649 mL
   PO:
           TF:
                                                                    322 mL
                                                                    305 mL
   IVF:
                                                                    130 mL
                                                                     38 mL
   Blood products:
                                                                    597 mL
                                                                    175 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,139 mL
                                                                    649 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   Gen: Opens eyes spontaneously
   Pulm: CTAB
   Abd: No tenderness to palpation
   Ext: + edema
   Labs / Radiology
   8 K/uL
   7.6 g/dL
   260 mg/dL
   4.1 mg/dL
   28 mEq/L
   3.8 mEq/L
   82 mg/dL
   102 mEq/L
   144 mEq/L
   21.1 %
   16.9 K/uL
        [image002.jpg]
   Ca: 7.7 Mg: 2.1 P: 3.5
   [1][**2150-2-25**] 05:22AM
                                     16
                                     26
                                    567*
   214*
   2.4*
   .
   [2][**2150-2-24**] 03:18AM
                                     13
                                     34
                                    785*
   202*
   4.6*
   [3][**2150-2-23**] 04:44AM
                                     12
                                     29
                                    661*
   175*
   5.2*
                                    3.6*
                                     1.6
   Source: Line-VIP port of HD cath
   [4][**2150-2-22**] 04:35AM
                                     11
                                     24
                                    455*
   150*
   4.0*
                                    2.8*
                                     1.2
                             [**2150-2-21**]  11:35 AM
                             [**2150-2-22**]  04:35 AM
                             [**2150-2-22**]  08:21 AM
                             [**2150-2-23**]  04:44 AM
                             [**2150-2-23**]  08:43 AM
                             [**2150-2-24**]  03:18 AM
                             [**2150-2-24**]  12:49 PM
                             [**2150-2-24**]  05:32 PM
                             [**2150-2-24**]  10:03 PM
                             [**2150-2-25**]  05:22 AM
   WBC
   7.0
   13.2
   15.9
   16.4
   16.9
   Hct
   24.2
   24.2
   22.8
   20.4
   22.9
   21.1
   Plt
   20
   35
   7
   58
   10
   47
   25
   8
   Cr
   3.8
   4.5
   3.3
   3.9
   4.0
   4.1
   Glucose
   187
   185
   203
   232
   250
   260
   Other labs: PT / PTT / INR:15.1/26.1/1.3, CK / CKMB /
   Troponin-T:21/2/0.04, ALT / AST:16/26, Alk Phos / T Bili:214/2.4,
   Differential-Neuts:88.0 %, Band:2.0 %, Lymph:0.0 %, Mono:6.0 %, Eos:0.0
   %, D-dimer:1824 ng/mL, Fibrinogen:476 mg/dL, Lactic Acid:2.5 mmol/L,
   LDH:567 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Fluid analysis / Other labs: [**2150-2-23**] 5:30 pm CSF;SPINAL FLUID
   Source: LP #3.
      GRAM STAIN (Final [**2150-2-23**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         NO MICROORGANISMS SEEN.
      FLUID CULTURE (Preliminary):    NO GROWTH.
      FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
    CYTOMEGALOVIRUS - PCR HERPES SIMPLEX VIRUS PCR VARICELLA DNA (PCR)
   [**2150-2-23**] 05:30PM        PND
   [**2150-2-23**] 05:30PM    PND
   [**2150-2-23**] 05:30PM      PND
      ACID FAST CULTURE (Preliminary):
         The sensitivity of an AFB smear on CSF is very low..
         If present, AFB may take 3-8 weeks to grow..
      VIRAL CULTURE (Preliminary):
   Imaging: CT Head [**2-23**]
   No acute intracranial abnormalities.
   Assessment and Plan
 LIVER FUNCTION ABNORMALITIES
 THROMBOCYTOPENIA, ACUTE
 ACIDOSIS, METABOLIC
 ALKALOSIS, RESPIRATORY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   61 year old female with biphenotypic leukemia admitted with persistent
   neutropenia and high grade VRE bacteremia attributed to line infection
   and septic thrombophlebitis, now s/p excision right basilic vein on
   [**2-11**], extubation delayed post-op for altered mental status, finally
   extubated on [**2-18**], but still with AMS.
   # AMS: Waxing and [**Doctor Last Name 533**]. Still no dramatic improvement. Carcinomatous
   meningitis (though no cells in CSF) vs drug effect moxifloxacin.
   - Cytology from CSF cancelled as no cells present
   - F/u cultures, no growth since [**2-11**]
   - neuro recs, appreciate their input
   - Hold lactulose given loose stools
   - continue to monitor
   - Continue HD
   - Have d/c
d moxiflox
   # Leukocytosis: Increased sputum production possibly infectious source
   vs neupogen effects. Also on differential is disease recurrence. Has
   been afebrile and w/o new culture growth.
   - Sputum cx
   - Urine cx
   - CXR
   - F/u previous cx data
   - Cont to trend
   #. Conjugated hyperblirubinemia: T bili down trending.  Have stopped
   vori, zosyn and now moxi.  Repeat RUQ US unchanged from prior.
   - Continue to trend
   # Coagulopathy: Improving with po vitamin K
   - monitr for improvement with vitamin K (3 doses total)
   - cont tube feeds
   # Anemia/Pancytopenia: Has been transfusion dependent.
   - transfuse today w/ pRBC and platelets
   - post transfusion cbc
   # Hypernatremia: Improved with increased free water flushes
   - continue 100mL Q8H flushes
   # Fevers, low grade: Resolved for now. Has been afebrile overnight.
   Maybe [**2-3**] immune reconstitution.
   - monitor for evidence of infection
   - Cont daptomycin
   #.  ARF: Anuric. Probable ESRD. Likely [**2-3**] ATN from hypotension vs gent
   - avoid nephrotoxic agents
   - appreciate renal recommendations regarding need for more permanent
   access
   - continue HD
   #.  VRE bactermemia: [**2-3**] PICC.
   - surveillance cultures have been negative
   - Continue daptomycin
   - appreciate ID recs regarding length of treatment
   #.  Biphenotypic Leukemia/pancytopenia:
   - transfuse for platelets<10,000 or any signs of bleeding and HCT<24
   - discuss w/ heme/onc regarding further treatment
   #. H/O positive PPD: Have d/c
d moxi given concern for AMS
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2150-2-25**] 05:49 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-2-13**] 12:40 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: To BMT when bed available
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient with the ICU resident and was present
   during key portions of the services provided.  The assessment and plan
   was discussed and detailed above.  I would emphasize and add the
   following.  No change in mental status.  Getting HD this morning,
   tolerating hemodynamically.  Cough with purulent secretions in back of
   throat.
   Lungs with occasional scattered rhonchi   No rash  line sites look good
   WBC increased, diff pending  LP no growth to date, viral PCRs pending.
   As above will check CXR, culture sputum and urine. Blood cultures if
   spikes or WBC continues to trend upwards.
   Agree with detailed assessment and plan above.
   Stable for transfer to the oncology floor
   Time spent 25 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 3079**] [**Last Name (NamePattern1) 3080**], MD
   on:[**2150-2-25**] 12:55 ------
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_215%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_216%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_217%22);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_218%22);

2150-02-26 07:16:00 Physician Resident Progress Note
Chief Complaint: Reason for MICU transfer: Post-operative hypotension,
   remains intubated
   .
   Chief Complaint: VRE bacteremia
   24 Hour Events:
 URINE CULTURE - At [**2150-2-25**] 04:30 PM
   UA and URINE CULTURE
 SPUTUM CULTURE - At [**2150-2-25**] 04:30 PM
   SPUTUM CX, GS and FUNGAL
 STOOL CULTURE - At [**2150-2-25**] 04:30 PM
   STOOL CDIFF A AND B
 CALLED OUT
   Allergies:
   Morphine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Daptomycin - [**2150-2-25**] 08:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2150-2-25**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies pain or difficulty breathing.
   Flowsheet Data as of  [**2150-2-26**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**52**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.9
   HR: 89 (72 - 93) bpm
   BP: 151/95(108) {89/63(69) - 163/95(108)} mmHg
   RR: 23 (13 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93.8 kg (admission): 105.5 kg
           Total In:
                                                                  2,380 mL
                                                                    598 mL
   PO:
           TF:
                                                                  1,009 mL
                                                                    359 mL
   IVF:
                                                                    131 mL
                                                                     36 mL
   Blood products:
                                                                    950 mL
                                                                    143 mL
   Total out:
                                                                  3,100 mL
                                                                      0 mL
   Urine:
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -720 mL
                                                                    598 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///30/
   Physical Examination
   GEN: Alert, eyes open,
   CV: RRR, no WRR
   PULM: CTAB, no WRR
   ABD: Soft, NTND, +BS
   EXT: +pedal edema (improved)
   NEURO: Tracks, tracks spontaneously, shakes head yes/no appropriately,
   wiggles toes to command, does not squeeze fingers to command
   Labs / Radiology
   8 K/uL
   9.2 g/dL
   265
   3.1 mg/dL
   30 mEq/L
   3.9 mEq/L
   55 mg/dL
   100 mEq/L
   142 mEq/L
   26.1 %
   14.9 K/uL
        [image002.jpg]
                             [**2150-2-23**]  04:44 AM
                             [**2150-2-23**]  08:43 AM
                             [**2150-2-24**]  03:18 AM
                             [**2150-2-24**]  12:49 PM
                             [**2150-2-24**]  05:32 PM
                             [**2150-2-24**]  10:03 PM
                             [**2150-2-25**]  05:22 AM
                             [**2150-2-25**]  01:55 PM
                             [**2150-2-26**]  04:32 AM
                             [**2150-2-26**]  06:00 AM
   WBC
   13.2
   15.9
   16.4
   16.9
   14.9
   Hct
   22.8
   20.4
   22.9
   21.1
   27.9
   26.1
   Plt
   7
   58
   10
   47
   25
   8
   25
   8
   Cr
   4.5
   3.3
   3.9
   4.0
   4.1
   3.1
   Glucose
   185
   203
   232
   [**Telephone/Fax (3) 13617**]
   265
   Other labs: PT / PTT / INR:13.8/25.1/1.2, CK / CKMB /
   Troponin-T:21/2/0.04, ALT / AST:15/29, Alk Phos / T Bili:240/1.7,
   Differential-Neuts:88.0 %, Band:2.0 %, Lymph:0.0 %, Mono:6.0 %, Eos:0.0
   %, D-dimer:1824 ng/mL, Fibrinogen:476 mg/dL, Lactic Acid:2.5 mmol/L,
   LDH:504 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Imaging: CXR AP [**2150-2-25**]:
   The Dobbhoff tube tip is in the stomach. The right central venous line
   tip is at the level of cavoatrial junction. The cardiomediastinal
   silhouette is
   stable. There is slight left retrocardiac opacity consistent with
   atelectasis, unchanged since the prior study, and the rest of the lungs
   are unremarkable. Cardiomediastinal silhouette is stable.
   Microbiology: [**2150-2-25**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B
   TEST-FINAL INPATIENT
   [**2150-2-25**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   INPATIENT
   [**2150-2-25**]  URINE URINE CULTURE-PENDING INPATIENT
   [**2150-2-25**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2150-2-25**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2150-2-24**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2150-2-24**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2150-2-23**]  CSF;SPINAL FLUID GRAM STAIN-FINAL; FLUID
   CULTURE-PRELIMINARY; FUNGAL CULTURE-PRELIMINARY; ACID FAST
   CULTURE-PRELIMINARY; VIRAL CULTURE-PRELIMINARY INPATIENT
   [**2150-2-23**]  CSF;SPINAL FLUID CRYPTOCOCCAL ANTIGEN-FINAL INPATIENT
   [**2150-2-23**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2150-2-23**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2150-2-21**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [**2150-2-20**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [**2150-2-20**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   Assessment and Plan
 LIVER FUNCTION ABNORMALITIES
 THROMBOCYTOPENIA, ACUTE
 ACIDOSIS, METABOLIC
 ALKALOSIS, RESPIRATORY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   biphenotypic
 .H/O PANCYTOPENIA
   61 year old female with biphenotypic leukemia admitted with persistent
   neutropenia and high grade VRE bacteremia attributed to line infection
   and septic thrombophlebitis, now s/p excision right basilic vein on
   [**2-11**], extubation delayed post-op for altered mental status, finally
   extubated on [**2-18**], but still with AMS.
   # AMS: Waxing and [**Doctor Last Name 533**]. Somewhat improved since yesterday, but still
   no dramatic improvement. I favor moxifloxacin exacerbating her mental
   status as quinolones are known to cause delirium. This has been DC
   DDx includes carcinomatous meningitis, although highly unlikely given
   no cells in CSF and negative MRI findings.
   - Cytology from CSF cancelled as no cells present
   - F/u cultures, no growth since [**2-11**]
   - Hold lactulose given loose stools
   - continue to monitor
   - Continue HD
   - Have d/c
d moxiflox
   # Leukocytosis: Trending down. Increased sputum production possibly
   unlikely to be PNA as CXR negative for new opacity. Also on
   differential is disease recurrence. Has been afebrile and w/o new
   culture growth.
   - F/u sputum cx
   - F/u urine cx
   - F/u previous cx data
   - Cont to trend
   #. Conjugated hyperblirubinemia: T bili down trending.  Have stopped
   vori, zosyn and now moxi.  Repeat RUQ US unchanged from prior.
   - Continue to trend
   # Coagulopathy: Improving with po vitamin K
   - monitr for improvement with vitamin K (3 doses total)
   - cont tube feeds
   # Anemia/Pancytopenia: Has been transfusion dependent. [**Month (only) 51**] be that her
   newly developing BM is more sensitive to medication insults. Have DC
   vori, zosy, cefepime which should hopefully help stimulate hemato and
   thrombopoeisis.
   - transfuse today w/platelets
   - post transfusion cbc
   # Hypernatremia: Improved with increased free water flushes
   - continue 100mL Q8H flushes
   # Fevers, low grade: Resolved for now. Has been afebrile overnight.
   Maybe [**2-3**] immune reconstitution.
   - monitor for evidence of infection
   - Cont daptomycin
   #.  ARF: Anuric. Probable ESRD. Likely [**2-3**] ATN from hypotension vs
   gent. Will d/w renal re tunneled line plus PICC and removing central
   line.
   - avoid nephrotoxic agents
   - D/w BMT and renal  re recommendations regarding need for more
   permanent access
   - continue HD
   #.  VRE bactermemia: [**2-3**] PICC.
   - surveillance cultures have been negative
   - Continue daptomycin
   - appreciate ID recs regarding length of treatment
   #.  Biphenotypic Leukemia/pancytopenia: Still pancytopenic,
   thrombocytopenia may be [**2-3**] cefepime and may take 1 week to resolve.
   - transfuse for platelets<10,000 or any signs of bleeding and HCT<24
   - discuss w/ heme/onc regarding further treatment
   #. H/O positive PPD: Have d/c
d moxi given concern for AMS
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2150-2-25**] 05:49 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2150-2-13**] 12:40 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: To BMT when bed available
   ------ Protected Section ------
    MICU ATTENDING ADDENDUM
    I saw and examined the patient with the medical ICU resident and was
   present during key portions of the services provided.  The assessment
   and plan was discussed and is detailed above. I would emphasize and add
   the following.  No significant change in level of responsiveness.
   Tolerated HD yesterday with removal of ~3L.  On room air this morning,
   good sats.  Still with oral secretions.  Lungs clear Abdomen soft with
   BS
   CXR: No new infiltrate or CHF
   No new micro data, CSF studies negative to date.
   Still have no clear etiology of altered mental status.  Patient to
   continue HD MWF.  Follow-up on CSF results.
   Trying to stop medications as above that may be contributing.  Patient
   is not requiring ICU level care.
   Agree with detailed assessment and plan as above.
   Time spent: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 3079**] [**Last Name (NamePattern1) 3080**], MD
   on:[**2150-2-26**] 15:55 ------